2170-11-02 10:08:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2170-11-1**] 11:00 PM
 MULTI LUMEN - START [**2170-11-1**] 11:00 PM
   Line placement in IR
 INVASIVE VENTILATION - START [**2170-11-2**] 12:17 AM
 EKG - At [**2170-11-2**] 02:36 AM
   Remains intubated, mecahanically ventilated.
   Received iv fluids, vasopressors (levophed, neosinephrine,
   vasopressin), blood products and corticosteroids.
   Rising serum lactic acid overnight, remains cool to touch and
   relatively hypotensive.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Mechanical ventilation
   Allergies:
   Ciprofloxacin
   Rash;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-11-2**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 105 (105 - 145) bpm
   BP: 98/61(70) {98/61(70) - 98/61(70)} mmHg
   RR: 19 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
   CVP: 12 (12 - 13)mmHg
   CO/CI (Fick): (16.9 L/min) / (8 L/min/m2)
   Mixed Venous O2% Sat: 88 - 88
                                Total In:
                                                                    259 mL
                                                                  3,109 mL
   PO:
                                TF:
   IVF:
                                                                     46 mL
                                                                  2,571 mL
   Blood products:
                                                                    213 mL
                                                                    538 mL
   Total out:
                                                                      0 mL
                                                                    600 mL
   Urine:
   570 mL
   NG:
   30 mL
   Stool:
   Drains:
   Balance:
                                                                    259 mL
                                                                  2,509 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 649 (649 - 740) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.27/28/161/13/-12
   Ve: 10.6 L/min
   PaO2 / FiO2: 322
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Cool, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   11.8 g/dL
   56 K/uL
   215 mg/dL
   0.9 mg/dL
   13 mEq/L
   4.9 mEq/L
   17 mg/dL
   109 mEq/L
   136 mEq/L
   35.5 %
   4.8 K/uL
        [image002.jpg]
                            [**2170-11-1**]  10:40 PM
                            [**2170-11-1**]  11:46 PM
                            [**2170-11-1**]  11:49 PM
                            [**2170-11-2**]  12:00 AM
                            [**2170-11-2**]  01:28 AM
                            [**2170-11-2**]  02:12 AM
                            [**2170-11-2**]  02:19 AM
                            [**2170-11-2**]  04:06 AM
                            [**2170-11-2**]  05:17 AM
                            [**2170-11-2**]  08:53 AM
   WBC
   0.9
   1.8
   4.8
   Hct
   27.8
   27.4
   35.5
   Plt
   63
   59
   56
   Cr
   0.7
   0.8
   0.9
   TropT
   0.08
   TCO2
   22
   22
   19
   16
   15
   13
   Glucose
   149
   215
   Other labs: PT / PTT / INR:16.0/36.7/1.4, CK / CKMB /
   Troponin-T:48//0.08, ALT / AST:163/268, Alk Phos / T Bili:1445/11.9,
   Differential-Neuts:64.0 %, Band:8.0 %, Lymph:8.0 %, Mono:16.0 %,
   Eos:0.0 %, Fibrinogen:106 mg/dL, Lactic Acid:5.8 mmol/L, Albumin:2.5
   g/dL, LDH:363 IU/L, Ca++:8.0 mg/dL, Mg++:2.6 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   Shock, respiratory failure.
   RESPIRATORY FAILURE -- multifactorial, including pulmonary infiltrates
   (L>>R).  Continue to maintain mechanical ventilation, monitor ABG.  F/U
   CXR.
   HYPOTENSION -- concerns include hypovolemia (blood loss), and possibly
   advanced sepsis.  No evidence for cardiogenic shock, or neurologic
   shock.  Doubt pulmonary embolism, but at risk for thromboembolic
   disease (IVC filter.  Plan support BP, maintain MAP >60 mmHg.  Wean
   vasopressors as tolerated.
   OLIGURIA -- hypovolemic +/- septic shock likely; Plan resussitation,
   monitor UO, BUN, creatinine.
   PULMONARY INFILTRATES -- suspect aspiration Left lung.
   HEMATURIA -- suspect related to placement & attempts for nephrostomy
   tubes.  Underlying bladder source.  Concern for retroperitoneal
   bleed/dissection.  Monitor serial Hct.  Transfuse plts if <50k.
   PROSTATE CA -- advanced.  No further treatment planned.
   FLUIDS -- hypovolemia in part.  Continue iv fluids to CVP>8.
   SEPSIS
 Evidence for polymicrobial sepsis (+ blood culture);  continue
   support, vasopresors, montoring, empirical antimicrobials.  Possible
   sources include lungs, urinary tract.
   HEMATURIA
 attributed in part to bladder erosion, but also to recent
   instrumentation.
   ECCHYMOSIS
 concern for retroperitoneal bleeding (recent
   instrumentation).  Plan torso CT to assess for bleed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2170-11-1**] 11:00 PM
   Multi Lumen - [**2170-11-1**] 11:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: Discussed plans with wife.  Answered all
   questions.
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2170-11-02 13:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Shock and Respiratory failure s/p nephrostomy tube
   placement
   24 Hour Events:
   Escalating pressor needs in the setting of ongoing hypotension, rising
   lactate, and poor urine ouput. Currently on levo, neo, and vasopressin.
   HR improved from 140s to 100s overnight.
   Received a total of 4 units PRBCs s/p procedure. Hcts bumping
   appropriately. Received ~4 L IVF boluses.
   IR attending in touch many times over the night to discuss case.
   Sedation changed from Propofol to Versed/Fentanyl with hopes for
   improved hemodynamic status.
   History obtained from Family / [**Hospital 56**] Medical records
   Allergies:
   Ciprofloxacin
   Rash;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 200 mcg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Orthopnea
   Nutritional Support: No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, Distention
   Genitourinary: No(t) Dysuria, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash, Ecchymoses
   Endocrine: No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Flowsheet Data as of  [**2170-11-2**] 12:45 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.2
   HR: 102 (101 - 145) bpm
   BP: 103/66(80) {84/51(64) - 132/77(96)} mmHg
   RR: 16 (14 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 12 (12 - 292)mmHg
   CO/CI (Fick): (16.9 L/min) / (8 L/min/m2)
   Mixed Venous O2% Sat: 88 - 88
   Total In:
                                                                    259 mL
                                                                  4,613 mL
   PO:
   TF:
   IVF:
                                                                     46 mL
                                                                  4,075 mL
   Blood products:
                                                                    213 mL
                                                                    538 mL
   Total out:
                                                                      0 mL
                                                                    690 mL
   Urine:
                                                                    660 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                    259 mL
                                                                  3,923 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 578 (578 - 740) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: 7.27/28/161/13/-12
   Ve: 11 L/min
   PaO2 / FiO2: 322
   Physical Examination
   General Appearance: No acute distress, No(t) Thin, No(t) Anxious, No(t)
   Diaphoretic, Sedated, intubated
   Eyes / Conjunctiva: No(t) Pupils dilated, No(t) Conjunctiva pale, No(t)
   Sclera edema, Scleral icterus
   Head, Ears, Nose, Throat: NG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Hyperdynamic), (S1: No(t) Absent), (S2: No(t)
   Distant, No(t) Loud, No(t) Widely split , No(t) Fixed), No(t) S3, No(t)
   S4, No(t) Rub, (Murmur: No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: No(t) Paradoxical), (Percussion: No(t)
   Resonant : , No(t) Hyperresonant: , Dullness : LLL), (Breath Sounds:
   Clear : anteriorly, No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes
   : , Diminished: LLL, No(t) Absent : , No(t) Rhonchorous: ), Coarse
   breathsounds
   Abdominal: No(t) Soft, No(t) Non-tender, No(t) Tender: , No(t) Obese,
   Hypoactive bowel sounds, diffuse ecchymoses across the abdomen,
   nephrostomy tube site c/d/I with bloody drainage, +firm hepatomegaly
   Extremities: Right: 3+, Left: 2+, No(t) Cyanosis, No(t) Clubbing, R
   hand cooler to touch than L hand
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Cool, Rash: Ecchymoses , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Oriented (to): , Movement: Not
   assessed, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   51 K/uL
   11.8 g/dL
   215 mg/dL
   0.9 mg/dL
   13 mEq/L
   4.9 mEq/L
   17 mg/dL
   109 mEq/L
   136 mEq/L
   34.8 %
   4.8 K/uL
        [image002.jpg]
                            [**2170-11-1**]  11:46 PM
                            [**2170-11-1**]  11:49 PM
                            [**2170-11-2**]  12:00 AM
                            [**2170-11-2**]  01:28 AM
                            [**2170-11-2**]  02:12 AM
                            [**2170-11-2**]  02:19 AM
                            [**2170-11-2**]  04:06 AM
                            [**2170-11-2**]  05:17 AM
                            [**2170-11-2**]  08:53 AM
                            [**2170-11-2**]  10:43 AM
   WBC
   0.9
   1.8
   4.8
   Hct
   27.8
   27.4
   35.5
   34.8
   Plt
   63
   59
   56
   51
   Cr
   0.7
   0.8
   0.9
   TropT
   0.08
   TCO2
   22
   19
   16
   15
   13
   Glucose
   149
   215
   Other labs: PT / PTT / INR:16.0/36.7/1.4, CK / CKMB /
   Troponin-T:53//0.08, ALT / AST:163/268, Alk Phos / T Bili:1445/11.9,
   Differential-Neuts:64.0 %, Band:8.0 %, Lymph:8.0 %, Mono:16.0 %,
   Eos:0.0 %, Fibrinogen:106 mg/dL, Lactic Acid:5.8 mmol/L, Albumin:2.5
   g/dL, LDH:363 IU/L, Ca++:8.0 mg/dL, Mg++:2.6 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan:
   Assessment and Plan: 52 yo M with widely metstatic prostate cancer to
   bone and liver, h/o DVT/PE s/p IVC filter(not anticoagulated), on CBI
   from radiation cystits, being transferred to the MICU for close
   monitoring given his hemodynamic instability s/p IR placement of a R
   nephrostomy tube.  Unclear etiology of his hemodynamic compromise at
   this time.
   #Hemodynamic instability: Tachycardic, hypotensive, with cool
   extremities.  Overnight, most likely etiology thought to be hypovolemic
   shock in the setting of significant post-procedure bleed.  However, Hct
   responded well to PRBC transfusions. Other possible etiologies include
   cardiogenic shock (unlikely given no acute changes on EKG, negative
   initial CK and troponin, normal mixed venous O2 saturation), sepsis,
   adrenal insufficiency, pulmonary embolus (still at risk even with IVC
   filter).  Elevated lactate suggests tissue hypoxia
 though may be
   somewhat iatrogenic in the setting of vasopressors.
   - S/p 3 L of fluid in the OR and 4 L of fluid in the ICU, still with
   poor urine output
   - Wean pressors to goal MAP of >60, wean phenylephrine first
   - Trend CVP, Lactates, Mixed Venous O2 Sat, urine output
   - Transfuse to keep Hct >25-30%
   - Complete r/o with cardiac enzymes
   - Stress dose steroids given recent failed cosyntropin stim test
   - Vancomycin and Zosyn for broad spectrum antibiotic coverage,
   follow-up cultures
   - Guiac stools (concern for mesenteric ischemia, though no significant
   pain on exam)
   - Consider abdominal imaging (CT) if stable, if not stable, renal
   ultrasound to eval for possible hematoma
   #Respiratory failure: Unclear etiology at this point. CXR with possible
   L sided PNA.  Currently stable on PSV. Received large amounts of fluid,
   at risk for pulmonary edema.
   - Follow ABGs
   - Wean vent as tolerated
   ##Radiation cystitis: Pt has gross hematuria from radiation cystitis.
   Per urology, urine is clearer s/p formalin instillation to bladder on
   [**2170-10-19**]. Hct has been stable.
   - trend Hct  q6hrs
   - Nephrostomy tube in place, catheter care as per IR, follow output. IR
   to look at tube today.
   - Continue to hold anticoagulation (per his oncologist, pt should not
   receive lovenox)
   - Appreciate Urology input
   - continue Ditropan and Belladonna for bladder spasms
   .
   ## Transaminitis: Elevated but stable. Likely secondary to hepatic
   involvement of prostate cancer (significant tumor burden). Given
   minimal utility of trending LFTs, will stop monitoring daily LFTs at
   this point. Asterixis noted on exam previously.
   - Monitor for encephalopathy  when off sedation
   - Aggressive bowel regimen to maintain regular stools
   .
   ## Anemia/Thrombocytopenia:. Likely [**2-10**] underlying malignancy and bony
   involvement and possibly acute blood loss in the setting of IR
   procedure.
   - Hct bumped appropriately s/p 4 units PRBCs
   - Transfuse active bleeding or Hct <25 or plts <50 in the setting of
   bleeding
   .
   ## Chronic Pain:Was stable on home regimen prior to transfer, currently
   on IV fentanyl for pain control.
   - Titrate as needed, when able, could resume home regimen:
   -resume Methadone 10 mg PO BID
   -continue Morpine 2-4mg IV q4prn
   -continue oxybutynin, belladona, gabapentin
   .
   ## Prostate cancer: Patient's cancer has been refractory to all
   therapies thus far. Metastatic to bone now w/ liver lesions concerning
   for mets. Will slowly reintroduce home pain regimen of dilaudid,
   oxybutinin, pyridium, methadone, neurontin, ativan.
   - F/u recs of oncologist Dr. [**Last Name (STitle) 5889**]
   .
   ## History of DVT/PE : Per Dr. [**Last Name (STitle) 5889**] (oncology) pt is no longer a
   candidate for anticoagulation given recurrent hematuria. He will no
   longer receive lovenox.
   .
   ## Pressure Ulcer: Stage II Left ischial, continue duoderm and Allevyn
   foam dressing.
   .
   ## Obstructive sleep apnea: on CPAP at baseline.
   .
   ## H/o stomach AVM and GIB: continue PPI. Change to IV PPI given his
   ?GI bleed.
   .
   ## Depression: Continue Celexa
   .
   ## PPx: PPI. Bowel regimen, pneumoboots, Pt has h/o of dvt/pe but no
   longer a candidate for anticoagulation.
   .
   ## FEN/Lytes: Cardiac diet, replete lytes prn
   .
   ## Access: Had triple lumen RIGHT IJ placed [**2170-10-15**]; RIGHT PICC placed
   by [**2170-10-31**]
   .
   ## Code status: DNR (discussed with family)
   .
   ## Communication: [**Doctor First Name 16**]-Wife [**Telephone/Fax (1) 5836**]. [**Doctor First Name 16**] was called given his
   significant hypotension overnight, and the family arrived around
   4:30am.  Multiple discussions with the family re: directions of care.
   .
   ## Dispo: Pending clinical improvement  or decisions about direction of
   care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:  RIJ, R Art line
   Arterial Line - [**2170-11-1**] 11:00 PM
   Multi Lumen - [**2170-11-1**] 11:00 PM
   Prophylaxis:
   DVT: IVC filter(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:  Family aware of patient
s worsening status,
   called and came in to be at patient
s bedside
   Code status: DNR
   Disposition: ICU for now

2170-11-03 05:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   BCx grew GPCs and GNRs
   Large Posterior Hematoma appreciated on exam, CT Thorax performed
   500ccs of coffee ground emesis.
   FiO2 weaned
   Bolus 500NS cc x1
   Decision made by IR not to take pt back for procedure overnight given
   that he was hemodynamically stable with stable Hcts.
 ULTRASOUND - At [**2170-11-2**] 08:00 AM
   renal ultrasound
 BLOOD CULTURED - At [**2170-11-3**] 04:06 AM
   temp 102
 FEVER - 103.0
F - [**2170-11-2**] 06:00 PM
   Allergies:
   Ciprofloxacin
   Rash;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2170-11-2**] 04:00 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Vasopressin - 2.4 units/hour
   Phenylephrine - 0.4 mcg/Kg/min
   Fentanyl - 125 mcg/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-11-3**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 38.9
C (102
   HR: 105 (99 - 109) bpm
   BP: 96/51(66) {95/46(63) - 118/71(85)} mmHg
   RR: 17 (14 - 21) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 4 (4 - 292)mmHg
   Total In:
                                                                  7,412 mL
                                                                  1,179 mL
   PO:
   TF:
   IVF:
                                                                  6,649 mL
                                                                  1,179 mL
   Blood products:
                                                                    764 mL
   Total out:
                                                                  1,540 mL
                                                                    900 mL
   Urine:
                                                                  1,510 mL
                                                                    550 mL
   NG:
                                                                     30 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  5,872 mL
                                                                    279 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 632 (578 - 762) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 19 cmH2O
   SpO2: 96%
   ABG: 7.35/31/129/16/-7
   Ve: 10 L/min
   PaO2 / FiO2: 322
   Physical Examination
   General Appearance: No acute distress, No(t) Thin, No(t) Anxious, No(t)
   Diaphoretic, Sedated, intubated
   Eyes / Conjunctiva: No(t) Pupils dilated, No(t) Conjunctiva pale, No(t)
   Sclera edema, Scleral icterus
   Head, Ears, Nose, Throat: NG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Hyperdynamic), (S1: No(t) Absent), (S2: No(t)
   Distant, No(t) Loud, No(t) Widely split , No(t) Fixed), No(t) S3, No(t)
   S4, No(t) Rub, (Murmur: No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present),
   Respiratory / Chest: (Expansion: No(t) Paradoxical), (Percussion: No(t)
   Resonant : , No(t) Hyperresonant: , Dullness : LLL), (Breath Sounds:
   Clear : anteriorly, No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes
   : , Diminished: LLL, No(t) Absent : , No(t) Rhonchorous: ), Coarse
   breathsounds
   Abdominal: No(t) Soft, No(t) Non-tender, , No(t) Obese, Hypoactive
   bowel sounds, diffuse ecchymoses across the abdomen, nephrostomy tube
   site c/d/I with bloody drainage, +firm hepatomegaly
   Extremities: Right: 3+, Left: 2+, No(t) Cyanosis, No(t) Clubbing, R
   hand cooler to touch than L hand
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Cool, Rash: Ecchymoses , No(t) Jaundice
   Neurologic: Attentive, Oriented (to): , Movement: Not assessed, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   49 K/uL
   10.0 g/dL
   152 mg/dL
   1.1 mg/dL
   16 mEq/L
   4.4 mEq/L
   25 mg/dL
   105 mEq/L
   131 mEq/L
   28.5 %
   5.7 K/uL
        [image002.jpg]
   Chest CT shows consolidation of the LUL, as well as sites of bleeding
   that are NOT impressive enough to account of drop in hct.
                            [**2170-11-2**]  10:43 AM
                            [**2170-11-2**]  12:33 PM
                            [**2170-11-2**]  03:03 PM
                            [**2170-11-2**]  04:53 PM
                            [**2170-11-2**]  06:10 PM
                            [**2170-11-2**]  06:27 PM
                            [**2170-11-2**]  09:09 PM
                            [**2170-11-2**]  09:43 PM
                            [**2170-11-3**]  02:53 AM
                            [**2170-11-3**]  03:26 AM
   WBC
   5.7
   Hct
   34.8
   33.7
   33.2
   32.0
   31.1
   28.5
   Plt
   51
   37
   56
   85
   66
   49
   Cr
   1.1
   TCO2
   16
   17
   18
   Glucose
   273
   152
   Other labs: PT / PTT / INR:17.9/45.2/1.6, CK / CKMB /
   Troponin-T:51//0.08, ALT / AST:163/268, Alk Phos / T Bili:1445/11.9,
   Differential-Neuts:64.0 %, Band:8.0 %, Lymph:8.0 %, Mono:16.0 %,
   Eos:0.0 %, Fibrinogen:106 mg/dL, Lactic Acid:3.8 mmol/L, Albumin:2.5
   g/dL, LDH:363 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Assessment and Plan: 52 yo M with widely metstatic prostate cancer to
   bone and liver, h/o DVT/PE s/p IVC filter(not anticoagulated), on CBI
   from radiation cystits, being transferred to the MICU for close
   monitoring given his hemodynamic instability s/p IR placement of a R
   nephrostomy tube.  Unclear etiology of his hemodynamic compromise at
   this time.
   #Hemodynamic instability: Tachycardic, hypotensive, with cool
   extremities.  Overnight, most likely etiology thought to be hypovolemic
   shock in the setting of significant post-procedure bleed.  However, Hct
   responded well to PRBC transfusions. Other possible etiologies include
   cardiogenic shock (unlikely given no acute changes on EKG, negative
   initial CK and troponin, normal mixed venous O2 saturation), sepsis,
   adrenal insufficiency, pulmonary embolus (still at risk even with IVC
   filter).  Elevated lactate suggests tissue hypoxia
 though may be
   somewhat iatrogenic in the setting of vasopressors.
   - Still with poor urine output, trying to refrain from further fluid
   resuscitation due to anasarca.
   - Wean pressors to goal MAP of >60, wean phenylephrine first
   - Trend CVP, Lactates, Mixed Venous O2 Sat, urine output
   - Transfuse to keep Hct >25-30%
   - Stress dose steroids given recent failed cosyntropin stim test
   - Vancomycin and Zosyn, for broad spectrum antibiotic coverage, and
   adding Aztreonam for double coverage of gm negative rods.
   - Follow-up cultures
   - Consider abdominal imaging (CT) if stable, if not stable, renal
   ultrasound to eval for possible hematoma
   #Respiratory failure: Unclear etiology at this point. CXR with possible
   L sided PNA.  Currently stable on PSV. Received large amounts of fluid,
   at risk for pulmonary edema.
   - Follow ABGs
   - CXR in the morning.
   - SBT tomorrow for possible extubation.
   - Wean vent as tolerated / sedated.
   ##Radiation cystitis: Pt has gross hematuria from radiation cystitis.
   Per urology, urine is clearer s/p formalin instillation to bladder on
   [**2170-10-19**]. Hct has been stable.
   - Trend Hct  q6hrs
   - Nephrostomy tube in place, catheter care as per IR, follow output. IR
   to look at tube today.
   - Continue to hold anticoagulation (per his oncologist, pt should not
   receive lovenox)
   - Appreciate Urology input
   - Continue Ditropan and Belladonna for bladder spasms
   .
   ## Transaminitis: Elevated but stable. Likely secondary to hepatic
   involvement of prostate cancer (significant tumor burden). Given
   minimal utility of trending LFTs, will stop monitoring daily LFTs at
   this point. Asterixis noted on exam previously.
   - Monitor for encephalopathy  when off sedation
   - Aggressive bowel regimen to maintain regular stools
   .
   ## Anemia/Thrombocytopenia:. Likely [**2-10**] underlying malignancy and bony
   involvement and possibly acute blood loss in the setting of IR
   procedure.
   - Transfuse active bleeding or Hct <25 or plts <50 in the setting of
   bleeding
   .
   ## Chronic Pain:Was stable on home regimen prior to transfer, currently
   on IV fentanyl for pain control.
   - Titrate as needed, when able, could resume home regimen:
   -resume Methadone 10 mg PO BID
   -continue Morpine 2-4mg IV q4prn
   -continue oxybutynin, belladona, gabapentin
   .
   ## Prostate cancer: Patient's cancer has been refractory to all
   therapies thus far. Metastatic to bone now w/ liver lesions concerning
   for mets. Will slowly reintroduce home pain regimen of dilaudid,
   oxybutinin, pyridium, methadone, neurontin, ativan.
   - F/u recs of oncologist Dr. [**Last Name (STitle) 5889**]
   .
   ## History of DVT/PE : Per Dr. [**Last Name (STitle) 5889**] (oncology) pt is no longer a
   candidate for anticoagulation given recurrent hematuria. He will no
   longer receive lovenox.
   .
   ## Pressure Ulcer: Stage II Left ischial, continue duoderm and Allevyn
   foam dressing.
   .
   ## Obstructive sleep apnea: on CPAP at baseline.
   .
   ## H/o stomach AVM and GIB: continue PPI. Change to IV PPI [**Hospital1 **] given
   his ?GI bleed.
   .
   ## Depression: Continue Celexa
   .
   ## PPx: PPI. Bowel regimen, pneumoboots, Pt has h/o of dvt/pe but no
   longer a candidate for anticoagulation.
   .
   ## FEN/Lytes: Cardiac diet, replete lytes prn
   .
   ## Access: Had triple lumen RIGHT IJ placed [**2170-10-15**]; RIGHT PICC placed
   by [**2170-10-31**]
   .
   ## Code status: DNR (discussed with family)
   .
   ## Communication: [**Doctor First Name 16**]-Wife [**Telephone/Fax (1) 5836**]. [**Doctor First Name 16**] was called given his
   significant hypotension overnight, and the family arrived around
   4:30am.  Multiple discussions with the family re: directions of care.
   .
   ## Dispo: Pending clinical improvement  or decisions about direction of
   care
   ICU Care
   Lines:
   Arterial Line - [**2170-11-1**] 11:00 PM
   Multi Lumen - [**2170-11-1**] 11:00 PM

2170-11-04 05:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - BP somewhat tenuous at 90s/60s.
   - HCT trend: 27.5 -> 25.1 -> 26.7
   - Started Aztreonam for double coverage of GNR
   - ?extuate today
   - Failed trial to discontinue CBI - began urinating frank blood.
 FEVER - 101.3
F - [**2170-11-4**] 04:00 AM
   Persistently bacteremic with GPC
   Allergies:
   Ciprofloxacin
   Rash;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2170-11-3**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2170-11-4**] 12:00 AM
   Aztreonam - [**2170-11-4**] 02:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-11-4**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-11-4**] 05:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.5
C (101.3
   HR: 111 (96 - 114) bpm
   BP: 107/59(74) {80/45(60) - 122/62(79)} mmHg
   RR: 15 (13 - 19) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 9 (6 - 10)mmHg
   Total In:
                                                                  5,211 mL
                                                                    486 mL
   PO:
   TF:
   IVF:
                                                                  4,822 mL
                                                                    456 mL
   Blood products:
                                                                    299 mL
   Total out:
                                                                  2,330 mL
                                                                    400 mL
   Urine:
                                                                  1,830 mL
                                                                    400 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                  2,881 mL
                                                                     86 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 730 (602 - 738) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 19 cmH2O
   SpO2: 97%
   ABG: 7.37/30/156//-6
   Ve: 11.2 L/min
   PaO2 / FiO2: 390
   Physical Examination
   General Appearance: No acute distress, No(t) Thin, No(t) Anxious, No(t)
   Diaphoretic, Sedated, intubated
   Eyes / Conjunctiva: No(t) Pupils dilated, No(t) Conjunctiva pale, No(t)
   Sclera edema, Scleral icterus
   Head, Ears, Nose, Throat: NG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Hyperdynamic), (S1: No(t) Absent), (S2: No(t)
   Distant, No(t) Loud, No(t) Widely split , No(t) Fixed), No(t) S3, No(t)
   S4, No(t) Rub, (Murmur: No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present),
   Respiratory / Chest: (Expansion: No(t) Paradoxical), (Percussion: No(t)
   Resonant : , No(t) Hyperresonant: , Dullness : LLL), (Breath Sounds:
   Clear : anteriorly, No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes
   : , Diminished: LLL, No(t) Absent : , No(t) Rhonchorous: ), Coarse
   breathsounds
   Abdominal: No(t) Soft, No(t) Non-tender, , No(t) Obese, Hypoactive
   bowel sounds, diffuse ecchymoses across the abdomen, nephrostomy tube
   site c/d/I with bloody drainage, +firm hepatomegaly
   Extremities: Right: 3+, Left: 2+, No(t) Cyanosis, No(t) Clubbing, R
   hand cooler to touch than L hand
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Cool, Rash: Ecchymoses , No(t) Jaundice
   Neurologic: Attentive, Oriented (to): , Movement: Not assessed, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   65 K/uL
   9.9 g/dL
   152 mg/dL
   1.1 mg/dL
   16 mEq/L
   4.4 mEq/L
   25 mg/dL
   105 mEq/L
   131 mEq/L
   27.9 %
   5.7 K/uL
        [image002.jpg]
    Am labs: Na 136 K 3.4 Cl 106 HCO3 16 BUN 27 Cr 1.0 Ca 7.6 Mg 1.9 Phos
   3.1 WBC 5.0
   Prior HCT 27.4 PLT 73 PT/PTT/INR: 16/37.6/1.4
                            [**2170-11-2**]  09:43 PM
                            [**2170-11-3**]  02:53 AM
                            [**2170-11-3**]  03:26 AM
                            [**2170-11-3**]  08:29 AM
                            [**2170-11-3**]  12:27 PM
                            [**2170-11-3**]  04:19 PM
                            [**2170-11-3**]  07:47 PM
                            [**2170-11-4**]  12:26 AM
                            [**2170-11-4**]  03:54 AM
                            [**2170-11-4**]  04:37 AM
   WBC
   5.7
   Hct
   28.5
   27.5
   25.1
   26.7
   27.3
   27.4
   27.9
   Plt
   49
   39
   69
   73
   65
   Cr
   1.1
   TCO2
   17
   18
   18
   Glucose
   152
   Other labs: PT / PTT / INR:17.9/45.2/1.6, CK / CKMB /
   Troponin-T:51//0.08, ALT / AST:163/268, Alk Phos / T Bili:1445/11.9,
   Differential-Neuts:64.0 %, Band:8.0 %, Lymph:8.0 %, Mono:16.0 %,
   Eos:0.0 %, Fibrinogen:106 mg/dL, Lactic Acid:3.8 mmol/L, Albumin:2.5
   g/dL, LDH:363 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Micro: [**10-27**] blood cx NGTD x2
   [**11-2**] blood cx: GNR, Enterococcus
   [**11-2**] bl cx x2, [**11-3**] : GPC
   Imaging:
   IMPRESSION:
   1. Status post right nephrostomy placement. The distal end of right
   nephrostomy tube coils in the distal right ureter.
   2. New right renal subcapsular hematoma and small right perinephritic
   hematoma measuring 12 x 23 mm.
   3. Both kidneys are diffusely heterogeneous with foci of relative
   hyperintensity related to contrast administration, a finding that
   suggests
   ATN and which is more prominent on the right. Wedge shaped
   hypoperfusion in
   right kidney could reflect ischemia or infarct of that section prior to
   previous contrast administration, or alternatively could represent
   improved
   function of that portion of kidney with appropriate clearance of
   previously
   administered contrast.
   4. New hemorrhage or infiltrative mass in the left lateral bladder
   wall.
   5. Interval increase in size and number of osseous metastases.
   6. Unchanged fatty liver.
   Moderate bilateral pleural effusion and
   bibasilar atelectasis with a focal area of consolidation within the
   left upper
   lobe are new.
   Assessment and Plan
   Assessment and Plan: 52 yo M with widely metstatic prostate cancer to
   bone and liver, h/o DVT/PE s/p IVC filter(not anticoagulated), on CBI
   from radiation cystits, being transferred to the MICU for close
   monitoring given his hemodynamic instability s/p IR placement of a R
   nephrostomy tube.
   #Hemodynamic instability: Tachycardic, hypotensive, with cool
   extremities.  With fever and persistently positive bacteremia most
   likely sepsis. Initially most likely etiology thought to be hypovolemic
   shock in the setting of significant post-procedure bleed.  However, Hct
   responded well to PRBC transfusions. Other possible etiologies include
   cardiogenic shock (unlikely given no acute changes on EKG, negative
   initial CK and troponin, normal mixed venous O2 saturation), sepsis,
   adrenal insufficiency, pulmonary embolus (still at risk even with IVC
   filter).  Elevated lactate suggests tissue hypoxia
 though may be
   somewhat iatrogenic in the setting of vasopressors. Imaging shows new
   hemorrhage in bladder wall and LUL PNA and hematoma.
   - Still with poor urine output, trying to refrain from further fluid
   resuscitation due to anasarca.
   - Wean pressors to goal MAP of >60, wean phenylephrine first
   - Trend CVP, Lactates, Mixed Venous O2 Sat, urine output
   - Transfuse to keep Hct >25-30%
   - Stress dose steroids given recent failed cosyntropin stim test
   - Vancomycin and Zosyn, for broad spectrum antibiotic coverage, and
   adding Aztreonam for double coverage of gm negative rods. Consider
   change Abx to Dapto to cover VRE given persistently positive GPC,
   Enterococcus on blood cx while on Vanco
   - Follow-up cultures and [**Last Name (un) **]
   #Respiratory failure: Unclear etiology at this point. CXR and CTc/w LUL
   PNA.  Currently stable on PSV. Received large amounts of fluid, at risk
   for pulmonary edema.
   - Follow ABGs
   - CXR in the morning.
   - SBT tomorrow for possible extubation.
   - Wean vent as tolerated / sedated.
   ##Radiation cystitis: Pt has gross hematuria from radiation cystitis.
   Per urology, urine is clearer s/p formalin instillation to bladder on
   [**2170-10-19**]. Hct has been stable.
   - Trend Hct  q8hrs
   - Nephrostomy tube in place, catheter care as per IR, follow output. IR
   to look at tube today.
   - Continue to hold anticoagulation (per his oncologist, pt should not
   receive lovenox)
   - Appreciate Urology input
   - Continue Ditropan and Belladonna for bladder spasms
   .
   ## Transaminitis: Elevated but stable. Likely secondary to hepatic
   involvement of prostate cancer (significant tumor burden). Given
   minimal utility of trending LFTs, will stop monitoring daily LFTs at
   this point. Asterixis noted on exam previously.
   - Monitor for encephalopathy  when off sedation
   - Aggressive bowel regimen to maintain regular stools
   .
   ## Anemia/Thrombocytopenia:. Likely [**2-10**] underlying malignancy and bony
   involvement and possibly acute blood loss in the setting of IR
   procedure.
   - Transfuse active bleeding or Hct <25 or plts <50 in the setting of
   bleeding
   .
   ## Chronic Pain:Was stable on home regimen prior to transfer, currently
   on IV fentanyl for pain control.
   - Titrate as needed, when able, could resume home regimen:
   -resume Methadone 10 mg PO BID
   -continue Morpine 2-4mg IV q4prn
   -continue oxybutynin, belladona, gabapentin
   .
   ## Prostate cancer: Patient's cancer has been refractory to all
   therapies thus far. Metastatic to bone now w/ liver lesions concerning
   for mets. Will slowly reintroduce home pain regimen of dilaudid,
   oxybutinin, pyridium, methadone, neurontin, ativan.
   - F/u recs of oncologist Dr. [**Last Name (STitle) 5889**]
   .
   ## History of DVT/PE : Per Dr. [**Last Name (STitle) 5889**] (oncology) pt is no longer a
   candidate for anticoagulation given recurrent hematuria. He will no
   longer receive lovenox.
   .
   ## Pressure Ulcer: Stage II Left ischial, continue duoderm and Allevyn
   foam dressing.
   .
   ## Obstructive sleep apnea: on CPAP at baseline.
   .
   ## H/o stomach AVM and GIB: continue PPI. Change to IV PPI [**Hospital1 **] given
   his ?GI bleed.
   .
   ## Depression: Continue Celexa
   .
   ## PPx: PPI. Bowel regimen, pneumoboots, Pt has h/o of dvt/pe but no
   longer a candidate for anticoagulation.
   .
   ## FEN/Lytes: Cardiac diet, replete lytes prn
   .
   ## Access: Had triple lumen RIGHT IJ placed [**2170-10-15**]; RIGHT PICC placed
   by [**2170-10-31**]
   .
   ## Code status: DNR (discussed with family)
   .
   ## Communication: [**Doctor First Name 16**]-Wife [**Telephone/Fax (1) 5836**].
   .
   ## Dispo: Pending clinical improvement  or decisions about direction of
   care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2170-11-1**] 11:00 PM
   Multi Lumen - [**2170-11-1**] 11:00 PM

2170-11-05 05:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.5
F - [**2170-11-4**] 12:00 PM
   - Blood cx VRE and Klebsiella. Changed Abx from Vanc/Zosyn/Aztreonam to
   Dapto/CTX
   - ? Stool coming out around foley catheter. Was small amounts and no
   further episodes
   - Still on Levophed, unable to diurese [**2-10**] hypotension but grossly
   fluid overloaded
   - Lactate 3.0, trended down from 3.8
   - Echo ordered due to persistent bacteremia
   - Ordered Platelets [**11-5**] am for <50
   Allergies:
   Ciprofloxacin
   Rash;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2170-11-4**] 08:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2170-11-4**] 09:00 AM
   Aztreonam - [**2170-11-4**] 10:00 AM
   Ceftriaxone - [**2170-11-4**] 02:30 PM
   Daptomycin - [**2170-11-4**] 04:00 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-11-5**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.1
C (98.8
   HR: 122 (107 - 136) bpm
   BP: 97/65(78) {95/45(62) - 119/67(80)} mmHg
   RR: 18 (7 - 26) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 9 (3 - 319)mmHg
   Total In:
                                                                  2,201 mL
                                                                    349 mL
   PO:
   TF:
   IVF:
                                                                  2,011 mL
                                                                    259 mL
   Blood products:
   Total out:
                                                                  2,975 mL
                                                                    700 mL
   Urine:
                                                                  2,775 mL
                                                                    700 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                   -774 mL
                                                                   -351 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 354 (354 - 736) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.38/30/130/19/-5
   Ve: 12.7 L/min
   PaO2 / FiO2: 325
   Physical Examination
   General Appearance: Intubated, sedated, obese. No acute distress.
   Eyes / Conjunctiva: PERRL. Scleral edema and icterus
   Head, Ears, Nose, Throat: NG tube in place
   Cardiovascular: (PMI Hyperdynamic), S1, S2; 2/6 systolic murmur LUSB.
   Respiratory / Chest: Diminshed throughout with  coarse bronchial breath
   sounds
   Abdominal: Obese, Soft. Mildly distended with hypoactive bowel sounds,
   diffuse ecchymoses across the abdomen, nephrostomy tube site c/d/I with
   bloody drainage, +firm hepatomegaly
   Extremities: Right: 3+, Left: 3+, No Cyanosis, No Clubbing, cool to
   touch
   Skin:  Cool, Diffuse Ecchymoses , + Jaundice
   Neurologic:Responds minimally to noxious stimuli, sedated on Fentanyl
   Labs / Radiology
   36 K/uL
   9.1 g/dL
   114 mg/dL
   1.3 mg/dL
   19 mEq/L
   3.9 mEq/L
   28 mg/dL
   106 mEq/L
   134 mEq/L
   25.7 %
   4.0 K/uL
        [image002.jpg]
                            [**2170-11-3**]  03:26 AM
                            [**2170-11-3**]  08:29 AM
                            [**2170-11-3**]  12:27 PM
                            [**2170-11-3**]  04:19 PM
                            [**2170-11-3**]  07:47 PM
                            [**2170-11-4**]  12:26 AM
                            [**2170-11-4**]  03:54 AM
                            [**2170-11-4**]  04:37 AM
                            [**2170-11-4**]  04:25 PM
                            [**2170-11-5**]  03:23 AM
   WBC
   5.0
   4.0
   Hct
   27.5
   25.1
   26.7
   27.3
   27.4
   27.9
   28
   25.7
   Plt
   39
   69
   73
   65
   36
   Cr
   1.0
   1.3
   TCO2
   18
   18
   18
   Glucose
   126
   101
   114
   Other labs: PT / PTT / INR:16.3/32.9/1.5, CK / CKMB /
   Troponin-T:51//0.08, ALT / AST:163/268, Alk Phos / T Bili:1445/11.9,
   Differential-Neuts:64.0 %, Band:8.0 %, Lymph:8.0 %, Mono:16.0 %,
   Eos:0.0 %, Fibrinogen:106 mg/dL, Lactic Acid:3.0 mmol/L, Albumin:2.5
   g/dL, LDH:363 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Micro: [**11-4**] blood cultures growing GPCs; [**11-2**] cultures
 VRE and
   Klebsiella
   Assessment and Plan
   Assessment and Plan: 52 yo M with widely metstatic prostate cancer to
   bone and liver, h/o DVT/PE s/p IVC filter(not anticoagulated), on CBI
   from radiation cystits, being transferred to the MICU for hemodynamic
   instability and failure to extubate s/p IR placement of a R nephrostomy
   tube.
   #Hemodynamic instability: Tachycardic, hypotensive, with cool
   extremities.  With fever and persistently positive bacteremia most
   likely etiology  is sepsis. Initially was thought to be hypovolemic
   shock in the setting of significant post-procedure bleed.  However, Hct
   responded well to PRBC transfusions and has been stable. Elevated
   lactate suggests tissue hypoxia although has trended down. Imaging
   shows new hemorrhage in bladder wall and LUL PNA and hematoma.
   - Still with poor urine output, trying to refrain from further fluid
   resuscitation due to anasarca, only current IVF are Abx.
   - Wean Levophed to goal MAP of >60. Now off Neo
   - Trend CVP, Lactate, urine output
   - Transfuse to keep Hct >22%
   - Stress dose steroids given recent failed cosyntropin stim test; stop
   megace
   - Dapto to for VRE and CTX for Klebsiella; consulting ID for their recs
   - Follow-up cultures and [**Last Name (un) **]
   #Respiratory failure: On minimal vent settings at this point but would
   not extubate at this time [**2-10**] hemodynamic instability. Currently stable
   on PSV. Has gross anasarca and pleural effusions, risk for pulmonary
   edema but cannot diurese [**2-10**] hemodynamic instability and pressor
   requirement.
   - Follow ABGs
   - CXR in the morning
   - Daily SBTs, RSBIs.
   - Spontaneous breathing trial today.
   ##Radiation cystitis: Pt has gross hematuria from radiation cystitis.
   Per urology, urine is clearer s/p formalin instillation to bladder on
   [**2170-10-19**]. Hct trending downward.
   - Trend Hct  [**Hospital1 **]
   - Nephrostomy tube in place, catheter care as per IR; per their note
   yesterday they are considering placing a contralateral nephrostomy
   tube, however, pt. remains unstable and it is unclear how the tube
   would benefit him and could potentially cause further problems given
   the difficulties associated with placing the first tube.
   - Continue to hold anticoagulation (per his oncologist, pt should not
   receive lovenox)
   - Appreciate Urology input, IR recs
   - Ditropan and Belladonna for bladder spasms
   .
   ## Transaminitis: Elevated but stable. Likely secondary to hepatic
   involvement of prostate cancer (significant tumor burden). Given
   minimal utility of trending LFTs, will stop monitoring daily LFTs at
   this point..
   - Monitor for encephalopathy  when off sedation
   - Aggressive bowel regimen to maintain regular stools
   .
   ## Anemia/Thrombocytopenia:. Likely [**2-10**] underlying malignancy and bony
   involvement and possibly acute blood loss in the setting of IR
   procedure.  Platelets now 61 post platelet transfusion.
   - Transfuse active bleeding or Hct <22 or plts <50 in the setting of
   bleeding
   .
   ## Chronic Pain: Was stable on home regimen prior to transfer,
   currently on IV fentanyl for pain control.
   - Titrate as needed, when able, could resume home regimen:
   -stop Methadone 10 mg PO BID  given somnolence.
   -continue Morphine 2-4mg IV q4prn
   -continue oxybutynin, belladonna, gabapentin
   .
   ## Prostate cancer: Patient's cancer has been refractory to all
   therapies thus far. Metastatic to bone now w/ liver lesions concerning
   for mets. Will slowly reintroduce home pain regimen if extubated
   (dilaudid, oxybutinin, pyridium, methadone, neurontin, ativan).
   - F/u recs of oncologist Dr. [**Last Name (STitle) 5889**]
   .
   ## History of DVT/PE : Per Dr. [**Last Name (STitle) 5889**] (oncology) pt is no longer a
   candidate for anticoagulation given recurrent hematuria. He will no
   longer receive lovenox.  IVC filter in place.
   .
   ## Pressure Ulcer: Stage II Left ischial, continue duoderm and Allevyn
   foam dressing. Changed to aero bec
   .
   ## Obstructive sleep apnea: on CPAP at baseline.
   .
   ## H/o stomach AVM and GIB: continue PPI. Change to IV PPI [**Hospital1 **] given
   his ?GI bleed.
   .
   ## Depression: Continue Celexa
   .
   ## PPx: PPI. Bowel regimen, pneumoboots, Pt has h/o of dvt/pe but no
   longer a candidate for anticoagulation.
   .
   ## FEN/Lytes: Will start TFs; replete lytes prn. F/U Nutrition
   Consult/recs
   .
   ## Access: Had triple lumen RIGHT IJ placed [**2170-10-15**]; RIGHT PICC placed
   [**2170-10-31**] and removed; needs an A-line placed today.
   .
   ## Code status: Full Code (discussed with family, was previously DNR);
   need to discuss further with family
   .
   ## Communication: [**Doctor First Name 16**]-Wife [**Telephone/Fax (1) 5836**].
   .
   ## Dispo: Pending clinical improvement  or decisions about direction of
   care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2170-11-1**] 11:00 PM
   Multi Lumen - [**2170-11-1**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2170-11-06 05:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Methadone stopped yesterday
   Had echo without vegetations
   Tube feeds started
   Spoke w/family, will be here at 4pm today for family meeting
   Allergies:
   Ciprofloxacin
   Rash;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2170-11-4**] 08:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2170-11-4**] 09:00 AM
   Aztreonam - [**2170-11-4**] 10:00 AM
   Ceftriaxone - [**2170-11-5**] 02:00 PM
   Daptomycin - [**2170-11-5**] 04:00 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.11 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-11-6**] 03:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-11-6**] 05:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.8
   HR: 125 (104 - 130) bpm
   BP: 119/69(87) {85/46(59) - 130/79(96)} mmHg
   RR: 26 (12 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 10 (8 - 325)mmHg
   Total In:
                                                                  1,774 mL
                                                                    403 mL
   PO:
   TF:
                                                                     57 mL
                                                                    110 mL
   IVF:
                                                                  1,308 mL
                                                                    234 mL
   Blood products:
                                                                    199 mL
   Total out:
                                                                      0 mL
                                                                    300 mL
   Urine:
                                                                      1190
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     63 mL
                                                                    103 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 786 (570 - 786) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 31
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.38/33/162/18/-4
   Ve: 9.6 L/min
   PaO2 / FiO2: 405
   Physical Examination
   General Appearance: Intubated, sedated, obese. No acute distress.
   Opens eyes to voice.
   Eyes / Conjunctiva: PERRL. Scleral edema and icterus
   Head, Ears, Nose, Throat: NG tube in place
   Cardiovascular: (PMI Hyperdynamic), S1, S2; 2/6 systolic murmur LUSB.
   Respiratory / Chest: Diminshed throughout with  coarse bronchial breath
   sounds
   Abdominal: Obese, Soft. Mildly distended with hypoactive bowel sounds,
   diffuse ecchymoses across the abdomen, mildly tenderly to palpation;
   nephrostomy tube site c/d/I with bloody drainage, +firm hepatomegaly
   Extremities: Right: 3+, Left: 3+, No Cyanosis, No Clubbing, cool to
   touch
   Skin:  Cool, Diffuse Ecchymoses , + Jaundice
   Neurologic:Responds minimally to noxious stimuli, sedated on Fentanyl
   Labs / Radiology
   42 K/uL
   8.7 g/dL
   110 mg/dL
   0.9 mg/dL
   18 mEq/L
   3.6 mEq/L
   28 mg/dL
   108 mEq/L
   137 mEq/L
   24.3 %
   3.1 K/uL
        [image002.jpg]
                            [**2170-11-3**]  07:47 PM
                            [**2170-11-4**]  12:26 AM
                            [**2170-11-4**]  03:54 AM
                            [**2170-11-4**]  04:37 AM
                            [**2170-11-4**]  04:25 PM
                            [**2170-11-5**]  03:23 AM
                            [**2170-11-5**]  08:07 AM
                            [**2170-11-5**]  05:09 PM
                            [**2170-11-6**]  03:00 AM
                            [**2170-11-6**]  03:29 AM
   WBC
   5.0
   4.0
   4.0
   3.1
   Hct
   27.3
   27.4
   27.9
   28
   25.7
   26.0
   24.8
   24.3
   Plt
   65
   36
   61
   42
   Cr
   1.0
   1.3
   0.9
   TCO2
   18
   18
   20
   Glucose
   126
   101
   114
   110
   Other labs: PT / PTT / INR:17.0/31.2/1.5, CK / CKMB /
   Troponin-T:51//0.08, ALT / AST:163/268, Alk Phos / T Bili:1445/11.9,
   Differential-Neuts:75.0 %, Band:0.0 %, Lymph:17.0 %, Mono:5.0 %,
   Eos:0.0 %, Fibrinogen:106 mg/dL, Albumin:2.5 g/dL, LDH:363 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   ABG: 7.38 / 33 / 162 / 20
   ECHO: LVEF >65%; normal LV wall thickness & cavity size; CI >4 L/m/m2
   (high); RV size & wall motion wnl; AV leaflets normal; MV wnl; mild
   pulmonary artery systolic HNT
   Assessment and Plan
   Assessment and Plan: 52 yo M with widely metstatic prostate cancer to
   bone and liver, h/o DVT/PE s/p IVC filter(not anticoagulated), on CBI
   from radiation cystits, being transferred to the MICU for hemodynamic
   instability and failure to extubate s/p IR placement of a R nephrostomy
   tube.
   #Hemodynamic instability: Tachycardic, hypotensive, with cool
   extremities, persistently mild temperature, most likely secondary to
   sepsis.   Requiring less levophed than yesterday; urine output
   improved.
   - Cont. Dapto to for VRE and CTX for Klebsiella
   - Cont. to wean levophed to goal MAP of >60.
   - Trend CVP, Lactate, urine output
   - Transfuse to keep Hct >22%
   - Stress dose steroids given recent failed cosyntropin stim test;
   megace stopped [**11-5**]
   - Follow-up cultures and [**Last Name (un) **]
   #Respiratory failure: On minimal vent settings at this point.
   Considering extubation, but would not reintubate patient if he
   decompensates.  Need to discuss with family.
   - Spontaneous breathing trial today.
   - Follow ABGs
   - Consider CXR in the morning
   - Daily SBTs, RSBIs.
   ##Radiation cystitis: Urology recommends removing the nephrostomy tube
   as it may be contributing to the patient
s current sepsis.  Will
   consider removing tube as goals of care discussed with family this
   afternoon.
   - Continue to hold anticoagulation (per his oncologist, pt should not
   receive lovenox)
   - Ditropan and Belladonna for bladder spasms
   .
   ##. Abdominal pain
 Per nursing pt. is only stooling small amounts
   - increase bowel regimen.
   .
   ## Transaminitis: Elevated but stable. Likely secondary to hepatic
   involvement of prostate cancer (significant tumor burden). Given
   minimal utility of trending LFTs, will stop monitoring daily LFTs at
   this point..
   - Monitor for encephalopathy  when off sedation
   - Aggressive bowel regimen to maintain regular stools
   .
   ## Anemia/Thrombocytopenia:. Likely [**2-10**] underlying malignancy and bony
   involvement and possibly acute blood loss in the setting of IR
   procedure.  Platelets now 42.
   - Transfuse active bleeding or Hct <22 or plts <50 in the setting of
   bleeding; will transfuse platelets if nephrostomy tube is to be
   removed.
   .
   ## Chronic Pain: Was stable on home regimen prior to transfer,
   currently on IV fentanyl for pain control.
   - Titrate as needed, when able, could resume home regimen:
   -Methadone 10 mg PO BID  stopped [**11-5**] given somnolence.
   -continue Morphine 2-4mg IV q4prn
   -continue oxybutynin, belladonna, gabapentin
   -start fentanyl 25 mcg patch
   .
   ## Prostate cancer: Patient's cancer has been refractory to all
   therapies thus far. Metastatic to bone now w/ liver lesions concerning
   for mets. Will slowly reintroduce home pain regimen if extubated
   (dilaudid, oxybutinin, pyridium, methadone, neurontin, ativan).
   - F/u recs of oncologist Dr. [**Last Name (STitle) 5889**]
   .
   ## History of DVT/PE : Per Dr. [**Last Name (STitle) 5889**] (oncology) pt is no longer a
   candidate for anticoagulation given recurrent hematuria. He will no
   longer receive lovenox.  IVC filter in place.
   .
   ## Pressure Ulcer: Stage II Left ischial, continue duoderm and Allevyn
   foam dressing. Changed to aero bec
   .
   ## Obstructive sleep apnea: on CPAP at baseline.
   .
   ## H/o stomach AVM and GIB: continue PPI. Change to IV PPI [**Hospital1 **] given
   his ?GI bleed.
   .
   ## Depression: Continue Celexa
   .
   ## PPx: PPI. Bowel regimen, pneumoboots, Pt has h/o of dvt/pe but no
   longer a candidate for anticoagulation.
   .
   ## FEN/Lytes: Remove OGT and place NGT; hold TFs if pt. to be extubated
   today; replete lytes prn. Will calculate free water bolus and increase
   free water with TFs; F/U Nutrition Consult/recs
   .
   ## Access: A-line placed [**11-5**]; triple lumen RIGHT IJ placed [**2170-10-15**];
   RIGHT PICC placed [**2170-10-31**] and removed.
   ## Code status: Full Code (discussed with family, was previously DNR);
   Will discuss with family this afternoon during family meeting.
   .
   ## Communication: [**Doctor First Name 16**]-Wife [**Telephone/Fax (1) 5836**].
   .
   ## Dispo: Pending clinical improvement  or decisions about direction of
   care
   ICU Care
   Nutrition:
   Nutren 2.0 ([**1-10**]) - [**2170-11-5**] 06:23 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2170-11-1**] 11:00 PM
   Multi Lumen - [**2170-11-1**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Correction
 Pt. does not have a free water deficit and does not need
   extra free water boluses.  Will continue to monitor electrolytes and
   hold TF until decision regarding extubation is made.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2127**] [**Last Name (NamePattern1) 6211**], MD
   on:[**2170-11-6**] 12:57 ------

2170-11-07 05:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   NGT placed, OG removed.  Pt had SBT X 2 hours yesterday and did well.
   Per discussion with family, would like to be present for extubation,
   therefore waiting 24 hours.  Discussed removing nephrostomy tube,
   however IR is reluctant given bleeding risk.  During family meeting, pt
   was made DNR status.
 FEVER - 101.3
F - [**2170-11-6**] 06:00 PM
   Allergies:
   Ciprofloxacin
   Rash;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2170-11-4**] 08:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2170-11-4**] 09:00 AM
   Aztreonam - [**2170-11-4**] 10:00 AM
   Ceftriaxone - [**2170-11-6**] 02:15 PM
   Daptomycin - [**2170-11-6**] 06:15 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-11-7**] 03:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-11-7**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.4
C (99.4
   HR: 125 (112 - 140) bpm
   BP: 98/73(83) {81/50(65) - 133/123(128)} mmHg
   RR: 20 (16 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 14 (8 - 307)mmHg
   Total In:
                                                                  1,923 mL
                                                                    213 mL
   PO:
   TF:
                                                                    672 mL
   IVF:
                                                                  1,091 mL
                                                                    213 mL
   Blood products:
   Total out:
                                                                  3,350 mL
                                                                    200 mL
   Urine:
                                                                  2,500 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,427 mL
                                                                     13 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 569 (440 - 647) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 53
   PIP: 12 cmH2O
   SpO2: 98%
   ABG: 7.37/30/145/16/-6
   Ve: 11.9 L/min
   PaO2 / FiO2: 363
   Physical Examination
   General Appearance: Intubated, sedated, obese. No acute distress.
   Opens eyes to voice.
   Eyes / Conjunctiva: PERRL. Scleral edema and icterus
   Head, Ears, Nose, Throat: NG tube in place
   Cardiovascular: (PMI Hyperdynamic), S1, S2; 2/6 systolic murmur LUSB.
   Respiratory / Chest: Diminshed throughout with  coarse bronchial breath
   sounds
   Abdominal: Obese, Soft. Mildly distended with hypoactive bowel sounds,
   diffuse ecchymoses across the abdomen, mildly tenderly to palpation;
   nephrostomy tube site c/d/I with bloody drainage, +firm hepatomegaly
   Extremities: Right: 3+, Left: 3+, No Cyanosis, No Clubbing, cool to
   touch
   Skin:  Cool, Diffuse Ecchymoses , + Jaundice
   Neurologic:Responds minimally to noxious stimuli, sedated on Fentanyl
   Labs / Radiology
   26 K/uL
   8.0 g/dL
   142 mg/dL
   1.3 mg/dL
   16 mEq/L
   3.7 mEq/L
   31 mg/dL
   109 mEq/L
   138 mEq/L
   22.6 %
   3.1 K/uL
        [image002.jpg]
                            [**2170-11-4**]  04:37 AM
                            [**2170-11-4**]  04:25 PM
                            [**2170-11-5**]  03:23 AM
                            [**2170-11-5**]  08:07 AM
                            [**2170-11-5**]  05:09 PM
                            [**2170-11-6**]  03:00 AM
                            [**2170-11-6**]  03:29 AM
                            [**2170-11-6**]  12:27 PM
                            [**2170-11-7**]  01:47 AM
                            [**2170-11-7**]  02:32 AM
   WBC
   4.0
   4.0
   3.1
   Hct
   28
   25.7
   26.0
   24.8
   24.3
   22.6
   Plt
   36
   61
   42
   Cr
   1.3
   0.9
   1.3
   TCO2
   18
   18
   20
   21
   18
   Glucose
   101
   114
   110
   142
   Other labs: PT / PTT / INR:18.7/32.2/1.7, CK / CKMB /
   Troponin-T:51//0.08, ALT / AST:163/268, Alk Phos / T Bili:1445/11.9,
   Differential-Neuts:75.0 %, Band:0.0 %, Lymph:17.0 %, Mono:5.0 %,
   Eos:0.0 %, Fibrinogen:106 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.5
   g/dL, LDH:363 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   52 yo M with widely metstatic prostate cancer to bone and liver, h/o
   DVT/PE s/p IVC filter(not anticoagulated), on CBI from radiation
   cystits, being transferred to the MICU for hemodynamic instability and
   failure to extubate s/p IR placement of a R nephrostomy tube.
   #Hemodynamic instability: Tachycardic, hypotensive, with cool
   extremities, persistently mild temperature, most likely secondary to
   sepsis.   Requiring levophed for pressor support; has good urine
   output.  Blood cultures from [**11-4**] with enterococcus faecium.  Sputum
   from [**11-5**] with rare GNRs.
   - Cont. Dapto to for VRE and CTX for Klebsiella
   - Cont. to wean levophed to goal MAP of >60.
   - Transfuse to keep Hct >22%
   - Stress dose steroids given recent failed cosyntropin stim test;
   megace stopped [**11-5**]
   - surveillance cultures
   - will attempt to keep Is/Os even today given that yesterday was -1.4 L
   without diuretics.
   #Respiratory failure: On minimal vent settings at this point.
   Considering extubation, but would not reintubate patient if he
   decompensates.  Family is aware of status and would like to be present
   for extubation.  Likely patient will be able to breath on own given SBT
   yesterday was tolerated well.
   - plan for extubation when family is present in next 24-48 hours.
   ##Radiation cystitis: Urology recommends removing the nephrostomy tube
   as it may be contributing to the patient
s current sepsis.  Per IR,
   will not remove tube given risk of developing urinoma and risk of
   bleeding.
   - Continue to hold anticoagulation (per his oncologist, pt should not
   receive lovenox)
   - Ditropan and Belladonna for bladder spasms
   .
   ##. Abdominal pain
 Per nursing pt is not having bowel movements.
   - continue to monitor, bowel regimen
   .
   ## Transaminitis: Elevated but stable. Likely secondary to hepatic
   involvement of prostate cancer (significant tumor burden). Given
   minimal utility of trending LFTs, will stop monitoring daily LFTs at
   this point..
   - Monitor for encephalopathy  when off sedation
   - Aggressive bowel regimen to maintain regular stools
   .
   ## Anemia/Thrombocytopenia:. Likely [**2-10**] underlying malignancy and bony
   involvement and possibly acute blood loss in the setting of IR
   procedure.  Platelets now 26.
   - Transfuse active bleeding or Hct <22 or plts <50 in the setting of
   bleeding; will transfuse platelets if nephrostomy tube is to be
   removed.
   .
   ## Chronic Pain: Was stable on home regimen prior to transfer,
   currently on IV fentanyl for pain control.
   - Titrate as needed, when able, could resume home regimen:
   -Methadone 10 mg PO BID  stopped [**11-5**] given somnolence.
   -continue Morphine 2-4mg IV q4prn
   -continue oxybutynin, belladonna, gabapentin
   -start fentanyl 25 mcg patch
   .
   ## Prostate cancer: Patient's cancer has been refractory to all
   therapies thus far. Metastatic to bone now w/ liver lesions concerning
   for mets. Will slowly reintroduce home pain regimen if extubated
   (dilaudid, oxybutinin, pyridium, methadone, neurontin, ativan).
   - F/u recs of oncologist Dr. [**Last Name (STitle) 5889**]
   .
   ## History of DVT/PE : Per Dr. [**Last Name (STitle) 5889**] (oncology) pt is no longer a
   candidate for anticoagulation given recurrent hematuria. He will no
   longer receive lovenox.  IVC filter in place.
   .
   ## Pressure Ulcer: Stage II Left ischial, continue duoderm and Allevyn
   foam dressing. Changed to aero bed.
   .
   ## Obstructive sleep apnea: on CPAP at baseline.
   .
   ## H/o stomach AVM and GIB: continue PPI. Change to IV PPI [**Hospital1 **] given
   his ?GI bleed.
   .
   ## Depression: Continue Celexa
   .
   ## PPx: PPI. Bowel regimen, pneumoboots, Pt has h/o of dvt/pe but no
   longer a candidate for anticoagulation.
   .
   ## FEN/Lytes; NGT; hold TFs if pt. to be extubated today; replete lytes
   prn. F/U Nutrition Consult/recs
   .
   ## Access: A-line placed [**11-5**]; triple lumen RIGHT IJ placed [**2170-10-15**];
   RIGHT PICC placed [**2170-10-31**] and removed.
   ## Code status: DNR/DNI (pt currently intubated, would not re-intubate
   .
   ## Communication: [**Doctor First Name 16**]-Wife [**Telephone/Fax (1) 5836**].
   .
   ## Dispo: Pending clinical improvement  or decisions about direction of
   care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2170-11-1**] 11:00 PM
   Multi Lumen - [**2170-11-1**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2170-11-07 12:19:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 yo women with metastatic prostate CA, admitted with polymicrbial
   sepsis and hemorrhagic cystitis, and nephrostomy tube placed for
   recurrent blockage due to cystitis.  Has been on vent, and family
   moving towards comfort meausres.
   24 Hour Events:
 FEVER - 101.3
F - [**2170-11-6**] 06:00 PM
   Allergies:
   Ciprofloxacin
   Rash;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2170-11-6**] 02:15 PM
   Daptomycin - [**2170-11-6**] 06:15 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-11-7**] 03:40 AM
   Other medications:
   neurontin
   folate
   lactulose
   nystatin
   hydrocort
   fentanyl patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-11-7**] 12:18 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.8
C (100
   HR: 121 (117 - 140) bpm
   BP: 95/61(73) {78/57(71) - 133/123(128)} mmHg
   RR: 21 (18 - 34) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
   CVP: 14 (8 - 307)mmHg
   Total In:
                                                                  1,924 mL
                                                                    549 mL
   PO:
   TF:
                                                                    672 mL
   IVF:
                                                                  1,092 mL
                                                                    429 mL
   Blood products:
   Total out:
                                                                  3,350 mL
                                                                  2,510 mL
   Urine:
                                                                  2,500 mL
                                                                  2,510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,426 mL
                                                                 -1,961 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 541 (523 - 647) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 53
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.37/30/145/16/-6
   Ve: 12.5 L/min
   PaO2 / FiO2: 363
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, icteric sclera
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: 4+, Left: 4+
   Musculoskeletal: Unable to stand
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Not assessed, opens eyes to voice
   Labs / Radiology
   8.0 g/dL
   26 K/uL
   142 mg/dL
   1.3 mg/dL
   16 mEq/L
   3.7 mEq/L
   31 mg/dL
   109 mEq/L
   138 mEq/L
   22.6 %
   3.1 K/uL
        [image002.jpg]
                            [**2170-11-4**]  04:37 AM
                            [**2170-11-4**]  04:25 PM
                            [**2170-11-5**]  03:23 AM
                            [**2170-11-5**]  08:07 AM
                            [**2170-11-5**]  05:09 PM
                            [**2170-11-6**]  03:00 AM
                            [**2170-11-6**]  03:29 AM
                            [**2170-11-6**]  12:27 PM
                            [**2170-11-7**]  01:47 AM
                            [**2170-11-7**]  02:32 AM
   WBC
   4.0
   4.0
   3.1
   3.1
   Hct
   28
   25.7
   26.0
   24.8
   24.3
   22.6
   Plt
   36
   61
   42
   26
   Cr
   1.3
   0.9
   1.3
   TCO2
   18
   18
   20
   21
   18
   Glucose
   101
   114
   110
   142
   Other labs: PT / PTT / INR:18.7/32.2/1.7, CK / CKMB /
   Troponin-T:51//0.08, ALT / AST:163/268, Alk Phos / T Bili:1445/11.9,
   Differential-Neuts:75.0 %, Band:0.0 %, Lymph:17.0 %, Mono:5.0 %,
   Eos:0.0 %, Fibrinogen:106 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.5
   g/dL, LDH:363 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Microbiology: Blood cx: + enterococcus on [**11-4**]
   subseqently negative
   Assessment and Plan
 RETROPERITONEAL BLEED (RP BLEED) , PROCEDURE-RELATED
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):  To get extubated tomorrow
   after family is gathered together
 Septic shock:  Continue on levophed.  Enterococcal bacteremia on
   daptomycin.
 .H/O CANCER (MALIGNANT NEOPLASM), PROSTATE
   Bladder obstruction:  Family wanted to remove nephrostomy tube, will
   discuss with IR.
   Anemia:  Hct drifting down, hemorrhagic cystitis.
   ICU Care
   Nutrition:
   Comments: Not tolerating TFs today.  Holding them.
   Glycemic Control:
   Lines:
   Arterial Line - [**2170-11-1**] 11:00 PM
   Multi Lumen - [**2170-11-1**] 11:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2170-11-08 05:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2170-11-7**] 08:28 PM
   - weaning levophed
   - HR up to 130s; given 250cc x 2 w/o improvement; afebrile; sedation
   increased
   - hct & plt cont to drop & pt. with bloody BM --> transfused 1 unit
   PRBCs & 1 pk platelets
   Allergies:
   Ciprofloxacin
   Rash;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2170-11-7**] 02:00 PM
   Daptomycin - [**2170-11-7**] 05:00 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2170-11-7**] 09:30 PM
   Pantoprazole (Protonix) - [**2170-11-8**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-11-8**] 05:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.4
   HR: 121 (119 - 132) bpm
   BP: 98/48(60) {88/42(53) - 115/62(70)} mmHg
   RR: 20 (18 - 29) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 6 (6 - 6)mmHg
   Total In:
                                                                  1,568 mL
                                                                    682 mL
   PO:
   TF:
   IVF:
                                                                  1,358 mL
                                                                    128 mL
   Blood products:
                                                                    524 mL
   Total out:
                                                                  1,215 mL
                                                                    200 mL
   Urine:
                                                                    960 mL
                                                                    125 mL
   NG:
                                                                    255 mL
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                    353 mL
                                                                    482 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 534 (523 - 583) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 12 cmH2O
   SpO2: 99%
   ABG: ///18/
   Ve: 12.6 L/min
   Physical Examination
   General Appearance: Intubated, sedated, obese. No acute distress.
   Opens eyes to voice.
   Eyes / Conjunctiva: PERRL. Scleral edema and icterus
   Head, Ears, Nose, Throat: NG tube in place
   Cardiovascular: (PMI Hyperdynamic), S1, S2; 2/6 systolic murmur LUSB.
   Respiratory / Chest: Diminshed throughout with  coarse bronchial breath
   sounds
   Abdominal: Obese, Soft. Mildly distended with hypoactive bowel sounds,
   diffuse ecchymoses across the abdomen, mildly tenderly to palpation;
   nephrostomy tube site c/d/I with bloody drainage, +firm hepatomegaly
   Extremities: Right: 3+, Left: 3+, No Cyanosis, No Clubbing, cool to
   touch
   Skin:  Cool, Diffuse Ecchymoses , + Jaundice
   Neurologic:Responds minimally to noxious stimuli, sedated on Fentanyl
   Labs / Radiology
   66 K/uL
   8.3 g/dL
   128 mg/dL
   1.3 mg/dL
   18 mEq/L
   3.6 mEq/L
   35 mg/dL
   110 mEq/L
   141 mEq/L
   22.8 %
   3.1 K/uL
        [image002.jpg]
                            [**2170-11-5**]  05:09 PM
                            [**2170-11-6**]  03:00 AM
                            [**2170-11-6**]  03:29 AM
                            [**2170-11-6**]  12:27 PM
                            [**2170-11-7**]  01:47 AM
                            [**2170-11-7**]  02:32 AM
                            [**2170-11-7**]  04:53 PM
                            [**2170-11-7**]  10:45 PM
                            [**2170-11-8**]  02:00 AM
                            [**2170-11-8**]  04:45 AM
   WBC
   3.1
   3.1
   Hct
   24.8
   24.3
   22.6
   21.8
   20.4
   22.8
   Plt
   42
   26
   23
   15
   67
   66
   Cr
   0.9
   1.3
   TCO2
   20
   21
   18
   Glucose
   110
   142
   128
   Other labs: PT / PTT / INR:20.0/32.3/1.9, CK / CKMB /
   Troponin-T:51//0.08, ALT / AST:163/268, Alk Phos / T Bili:1445/11.9,
   Differential-Neuts:75.0 %, Band:0.0 %, Lymph:17.0 %, Mono:5.0 %,
   Eos:0.0 %, Fibrinogen:106 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.5
   g/dL, LDH:363 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 52 yo M with widely metstatic prostate cancer to bone and liver, h/o
   DVT/PE s/p IVC filter(not anticoagulated), on CBI from radiation
   cystits, being transferred to the MICU for hemodynamic instability and
   failure to extubate s/p IR placement of a R nephrostomy tube.
   #Hemodynamic instability: Tachycardic, hypotensive, with cool
   extremities, persistently mild temperature, most likely secondary to
   sepsis.   Requiring levophed for pressor support; has good urine
   output.  Blood cultures from [**11-4**] with enterococcus faecium.  Sputum
   from [**11-5**] with rare GNRs.
   - Cont. Dapto to for VRE and CTX for Klebsiella
   - Cont. to wean levophed to goal MAP of >60.
   - Transfuse to keep Hct >22%
   - Stress dose steroids given recent failed cosyntropin stim test;
   megace stopped [**11-5**]
   - surveillance cultures
   - will attempt to keep Is/Os even today given that yesterday was -1.4 L
   without diuretics.
   #Respiratory failure: On minimal vent settings at this point.
   Considering extubation, but would not reintubate patient if he
   decompensates.  Family is aware of status and would like to be present
   for extubation.  Likely patient will be able to breath on own given SBT
   yesterday was tolerated well.
   - plan for extubation when family is present in next 24-48 hours.
   ##Radiation cystitis: Urology recommends removing the nephrostomy tube
   as it may be contributing to the patient
s current sepsis.  Per IR,
   will not remove tube given risk of developing urinoma and risk of
   bleeding.
   - Continue to hold anticoagulation (per his oncologist, pt should not
   receive lovenox)
   - Ditropan and Belladonna for bladder spasms
   .
   ##. Abdominal pain
 Per nursing pt is not having bowel movements.
   - continue to monitor, bowel regimen
   .
   ## Transaminitis: Elevated but stable. Likely secondary to hepatic
   involvement of prostate cancer (significant tumor burden). Given
   minimal utility of trending LFTs, will stop monitoring daily LFTs at
   this point..
   - Monitor for encephalopathy  when off sedation
   - Aggressive bowel regimen to maintain regular stools
   .
   ## Anemia/Thrombocytopenia:. Likely [**2-10**] underlying malignancy and bony
   involvement and possibly acute blood loss in the setting of IR
   procedure.  Platelets now 26.
   - Transfuse active bleeding or Hct <22 or plts <50 in the setting of
   bleeding; will transfuse platelets if nephrostomy tube is to be
   removed.
   .
   ## Chronic Pain: Was stable on home regimen prior to transfer,
   currently on IV fentanyl for pain control.
   - Titrate as needed, when able, could resume home regimen:
   -Methadone 10 mg PO BID  stopped [**11-5**] given somnolence.
   -continue Morphine 2-4mg IV q4prn
   -continue oxybutynin, belladonna, gabapentin
   -start fentanyl 25 mcg patch
   .
   ## Prostate cancer: Patient's cancer has been refractory to all
   therapies thus far. Metastatic to bone now w/ liver lesions concerning
   for mets. Will slowly reintroduce home pain regimen if extubated
   (dilaudid, oxybutinin, pyridium, methadone, neurontin, ativan).
   - F/u recs of oncologist Dr. [**Last Name (STitle) 5889**]
   .
   ## History of DVT/PE : Per Dr. [**Last Name (STitle) 5889**] (oncology) pt is no longer a
   candidate for anticoagulation given recurrent hematuria. He will no
   longer receive lovenox.  IVC filter in place.
   .
   ## Pressure Ulcer: Stage II Left ischial, continue duoderm and Allevyn
   foam dressing. Changed to aero bed.
   .
   ## Obstructive sleep apnea: on CPAP at baseline.
   .
   ## H/o stomach AVM and GIB: continue PPI. Change to IV PPI [**Hospital1 **] given
   his ?GI bleed.
   .
   ## Depression: Continue Celexa
   .
   ## PPx: PPI. Bowel regimen, pneumoboots, Pt has h/o of dvt/pe but no
   longer a candidate for anticoagulation.
   .
   ## FEN/Lytes; NGT; hold TFs if pt. to be extubated today; replete lytes
   prn. F/U Nutrition Consult/recs
   .
   ## Access: A-line placed [**11-5**]; triple lumen RIGHT IJ placed [**2170-10-15**];
   RIGHT PICC placed [**2170-10-31**] and removed.
   ## Code status: DNR/DNI (pt currently intubated, would not re-intubate
   .
   ## Communication: [**Doctor First Name 16**]-Wife [**Telephone/Fax (1) 5836**].
   .
   ## Dispo: Pending clinical improvement  or decisions about direction of
   care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-11-1**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2170-11-09 05:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Extubated successfully
   CBC continues to trend down
   Allergies:
   Ciprofloxacin
   Rash;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2170-11-8**] 02:38 PM
   Daptomycin - [**2170-11-8**] 05:23 PM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2170-11-8**] 06:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-11-9**] 05:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.7
C (99.8
   HR: 107 (107 - 133) bpm
   BP: 109/52(64) {88/45(53) - 116/58(68)} mmHg
   RR: 22 (18 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  2,026 mL
                                                                    111 mL
   PO:
             TF:
   IVF:
                                                                  1,412 mL
                                                                    111 mL
   Blood products:
                                                                    524 mL
   Total out:
                                                                  3,400 mL
                                                                    450 mL
   Urine:
                                                                  3,125 mL
                                                                    200 mL
   NG:
                                                                    275 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,374 mL
                                                                   -339 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 624 (533 - 624) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 97%
   ABG: ///16/
   Ve: 18.5 L/min
   Physical Examination
   General Appearance: Intubated, sedated, obese. No acute distress.
   Opens eyes to voice.
   Eyes / Conjunctiva: PERRL. Scleral edema and icterus
   Head, Ears, Nose, Throat: NG tube in place
   Cardiovascular: (PMI Hyperdynamic), S1, S2; 2/6 systolic murmur LUSB.
   Respiratory / Chest: Diminshed throughout with  coarse bronchial breath
   sounds
   Abdominal: Obese, Soft. Mildly distended with hypoactive bowel sounds,
   diffuse ecchymoses across the abdomen, mildly tenderly to palpation;
   nephrostomy tube site c/d/I with bloody drainage, + firm hepatomegaly
   Extremities: Right: 3+, Left: 3+ pitting edema, No Cyanosis, No
   Clubbing, cool to touch
   Skin:  Cool, Diffuse Ecchymoses , + Jaundice
   Neurologic: Responds minimally to noxious stimuli, sedated on Fentanyl
   Labs / Radiology
   33 K/uL
   7.8 g/dL
   107 mg/dL
   1.0 mg/dL
   16 mEq/L
   3.6 mEq/L
   41 mg/dL
   111 mEq/L
   139 mEq/L
   21.2 %
   4.2 K/uL
        [image002.jpg]
                            [**2170-11-6**]  03:29 AM
                            [**2170-11-6**]  12:27 PM
                            [**2170-11-7**]  01:47 AM
                            [**2170-11-7**]  02:32 AM
                            [**2170-11-7**]  04:53 PM
                            [**2170-11-7**]  10:45 PM
                            [**2170-11-8**]  02:00 AM
                            [**2170-11-8**]  04:45 AM
                            [**2170-11-8**]  06:36 PM
                            [**2170-11-9**]  02:50 AM
   WBC
   3.1
   2.7
   3.3
   4.2
   Hct
   22.6
   21.8
   20.4
   22.8
   21.9
   21.2
   Plt
   26
   23
   15
   67
   66
   49
   33
   Cr
   1.3
   1.2
   1.0
   TCO2
   20
   21
   18
   Glucose
   142
   128
   107
   Other labs: PT / PTT / INR:22.8/36.6/2.2, CK / CKMB /
   Troponin-T:51//0.08, ALT / AST:163/268, Alk Phos / T Bili:1445/11.9,
   Differential-Neuts:75.0 %, Band:0.0 %, Lymph:17.0 %, Mono:5.0 %,
   Eos:0.0 %, Fibrinogen:106 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.5
   g/dL, LDH:363 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 52 yo M with widely metstatic prostate cancer to bone and liver, h/o
   DVT/PE s/p IVC filter(not anticoagulated), on CBI from radiation
   cystits, being transferred to the MICU for hemodynamic instability and
   failure to extubate s/p IR placement of a R nephrostomy tube.
   #Hemodynamic instability: Tachycardic, hypotensive, with cool
   extremities, persistently mild temperature, most likely secondary to
   sepsis.   Requiring levophed for pressor support; has good urine
   output.  Blood cultures from [**11-4**] with enterococcus faecium.  Sputum
   from [**11-5**] with rare GNRs.
   - Cont. Dapto to for VRE and CTX for Klebsiella
   - Cont. to wean levophed to goal MAP of >60.
   - Transfuse to keep Hct >22%
   - Stress dose steroids given recent failed cosyntropin stim test;
   megace stopped [**11-5**]
   - Follow cultures and keep Is/Os even.
    #Respiratory failure: On minimal vent settings at this point.  Family
   is aware of status and would like to be present for extubation.  Likely
   patient will be able to breath on own given SBT yesterday was tolerated
   well.
   - Plan for extubation when family is present in next 24-48 hours.
   #Radiation cystitis: Urology recommends removing the nephrostomy tube
   as it may be contributing to the patient
s current sepsis.  Per IR,
   will not remove tube given risk of developing urinoma and risk of
   bleeding.
   - Continue to hold anticoagulation (per his oncologist, pt should not
   receive lovenox)
   - Ditropan and Belladonna for bladder spasms held while intubated and
   sedated.
   .
   # Abdominal pain
 Per nursing pt is not having bowel movements, and
   has hypoactive BS.
   - Will continue to monitor, and administer bowel regimen.
   .
   #Transaminitis: Elevated but stable. Likely secondary to hepatic
   involvement of prostate cancer (significant tumor burden).
   - Monitor for encephalopathy  once sedations is weaned.
   - Aggressive bowel regimen to maintain regular stools
   .
   ## Anemia/Thrombocytopenia:. Likely [**2-10**] underlying malignancy and bony
   involvement and possibly acute blood loss in the setting of IR
   procedure.  Platelets now 66 post transfusion from 15.
   - Transfuse active bleeding or Hct <22 or plts <50 in the setting of
   bleeding; will transfuse platelets if nephrostomy tube is to be
   removed.
   .
   ## Chronic Pain: Was stable on home regimen prior to transfer,
   currently on IV fentanyl for pain control.
   - Titrate as needed, when able, could resume home regimen:
   - Methadone 10 mg PO BID stopped [**11-5**] given somnolence.
   - continue Morphine 2-4mg IV q4prn
   - Hold oxybutynin, belladonna while intubated and sedated.
   - Cont. gabapentin
   - Start fentanyl 25 mcg patch
   .
   ## Prostate cancer: Patient's cancer has been refractory to all
   therapies thus far. Metastatic to bone now w/ liver lesions concerning
   for mets. Will slowly reintroduce home pain regimen if extubated
   (dilaudid, oxybutinin, pyridium, methadone, neurontin, ativan).
   - F/u recs of oncologist Dr. [**Last Name (STitle) 5889**]
   - Will email Dr. [**Last Name (STitle) 5889**] to update on pt status.
   .
   ## History of DVT/PE : Per Dr. [**Last Name (STitle) 5889**] (oncology) pt is no longer a
   candidate for anticoagulation given recurrent hematuria. He will no
   longer receive lovenox.  IVC filter in place.
   .
   ## Pressure Ulcer: Stage II Left ischial, continue duoderm and Allevyn
   foam dressing. Changed to aero bed.
   .
   ## Obstructive sleep apnea: on CPAP at baseline.
   .
   ## H/o stomach AVM and GIB: continue PPI. Change to IV PPI [**Hospital1 **] given
   his ?GI bleed.
   .
   ## Depression: Continue Celexa
   .
   ## PPx: PPI. Bowel regimen, pneumoboots, Pt has h/o of dvt/pe but no
   longer a candidate for anticoagulation.
   .
   ## FEN/Lytes:  NGT; hold TFs given probable extubation and high
   residuals; replete lytes prn. F/U Nutrition Consult/recs
   .
   ## Access: A-line placed [**11-5**]; triple lumen RIGHT IJ placed [**2170-10-15**];
   RIGHT PICC placed [**2170-10-31**] and removed.
   ## Code status: DNR/DNI (pt currently intubated, would not
   re-intubate).
   .
   ## Communication: [**Doctor First Name 16**]-Wife [**Telephone/Fax (1) 5836**].
   .
   ## Dispo: Pending clinical improvement or decisions about direction of
   care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-11-1**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2170-11-10 05:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Familiy meeting- still DNR-DNI, no escalation of care. Would
   appreciate priest or [**Name2 (NI) **].
   - Emailed Dr. [**Last Name (STitle) 5889**]
   - Transfused 1unit PRBCs; postT HCT:
   Allergies:
   Ciprofloxacin
   Rash;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2170-11-9**] 02:00 PM
   Daptomycin - [**2170-11-9**] 04:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2170-11-9**] 07:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-11-10**] 05:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.3
   HR: 107 (102 - 117) bpm
   BP: 78/44(53) {78/42(52) - 108/55(82)} mmHg
   RR: 17 (8 - 29) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                    893 mL
                                                                     55 mL
   PO:
             TF:
   IVF:
                                                                    468 mL
                                                                     55 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,255 mL
                                                                    200 mL
   Urine:
                                                                    925 mL
                                                                    200 mL
   NG:
                                                                    330 mL
   Stool:
   Drains:
   Balance:
                                                                   -362 mL
                                                                   -145 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: ///16/
   Physical Examination
   General Appearance: Intubated, sedated, obese. No acute distress.
   Opens eyes to voice.
   Eyes / Conjunctiva: PERRL. Scleral edema and icterus
   Head, Ears, Nose, Throat: NG tube in place
   Cardiovascular: (PMI Hyperdynamic), S1, S2; 2/6 systolic murmur LUSB.
   Respiratory / Chest: Diminshed throughout with  coarse bronchial breath
   sounds
   Abdominal: Obese, Soft. Mildly distended with hypoactive bowel sounds,
   diffuse ecchymoses across the abdomen, mildly tenderly to palpation;
   nephrostomy tube site c/d/I with bloody drainage, + firm hepatomegaly
   Extremities: Right: 3+, Left: 3+ pitting edema, No Cyanosis, No
   Clubbing, cool to touch, with skin break down in multiple locations.
   Skin:  Cool, Diffuse Ecchymoses , + Jaundice
   Neurologic: Responds minimally to noxious stimuli, sedated on Fentanyl
   Labs / Radiology
   33 K/uL
   8.8 g/dL
   103 mg/dL
   1.0 mg/dL
   16 mEq/L
   3.6 mEq/L
   48 mg/dL
   112 mEq/L
   140 mEq/L
   24.1 %
   4.2 K/uL
        [image002.jpg]
                            [**2170-11-7**]  01:47 AM
                            [**2170-11-7**]  02:32 AM
                            [**2170-11-7**]  04:53 PM
                            [**2170-11-7**]  10:45 PM
                            [**2170-11-8**]  02:00 AM
                            [**2170-11-8**]  04:45 AM
                            [**2170-11-8**]  06:36 PM
                            [**2170-11-9**]  02:50 AM
                            [**2170-11-9**]  06:11 PM
                             [**2170-11-10**]  03:43 AM
   WBC
   3.1
   2.7
   3.3
   4.2
   Hct
   22.6
   21.8
   20.4
   22.8
   21.9
   21.2
   24.5
   24.1
   Plt
   26
   23
   15
   67
   66
   49
   33
   Cr
   1.3
   1.2
   1.0
   TCO2
   18
   Glucose
   142
   128
   107
   103
   Other labs: PT / PTT / INR:22.8/36.6/2.2, CK / CKMB /
   Troponin-T:51//0.08, ALT / AST:163/268, Alk Phos / T Bili:1445/11.9,
   Differential-Neuts:75.0 %, Band:0.0 %, Lymph:17.0 %, Mono:5.0 %,
   Eos:0.0 %, Fibrinogen:106 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.5
   g/dL, LDH:363 IU/L, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 52 yo M with widely metstatic prostate cancer to bone and liver, h/o
   DVT/PE s/p IVC filter(not anticoagulated), on CBI from radiation
   cystits, being transferred to the MICU for hemodynamic instability and
   failure to extubate s/p IR placement of a R nephrostomy tube.
   #Hemodynamic instability: Tachycardic, hypotensive, with cool
   extremities, persistently mild temperature, most likely secondary to
   sepsis.   Requiring levophed for pressor support; has good urine
   output.  Blood cultures from [**11-4**] with enterococcus faecium.  Sputum
   from [**11-5**] with rare GNRs.
   - Cont. Dapto to for VRE and CTX for Klebsiella
   - Cont. to wean levophed to goal MAP of >60.
   - Transfuse to keep Hct >22%
   - Stress dose steroids given recent failed cosyntropin stim test;
   megace stopped [**11-5**]
   - Follow cultures and keep Is/Os even.
   #Respiratory failure: Supportive measures with Oxygen and nebs, but
   patient is now DNR/DNI.
   #Radiation cystitis: Urology recommends removing the nephrostomy tube
   as it may be contributing to the patient
s current sepsis.  Per IR,
   will not remove tube given risk of developing urinoma and risk of
   bleeding.
   - Continue to hold anticoagulation (per his oncologist, pt should not
   receive lovenox)
   - Cont. CBI.
   .
   # Abdominal pain
 Per nursing pt is not having bowel movements, and
   has hypoactive BS.
   - Will continue to monitor, and administer bowel regimen.
   .
   ## Anemia/Thrombocytopenia:. Likely [**2-10**] underlying malignancy and bony
   involvement and possibly acute blood loss in the setting of IR
   procedure.  Platelets now 66 post transfusion from 15.
   - Transfuse active bleeding or Hct <22 or plts <50 in the setting of
   bleeding;
   .
   ## Chronic Pain: Was stable on home regimen prior to transfer,
   currently on IV fentanyl for pain control.
   - Titrate as needed, when able, could resume home regimen:
   - continue Morphine 2-4mg IV q4prn
   - Hold oxybutynin, belladonna while intubated and sedated.
   - Cont. gabapentin
   - Start fentanyl 25 mcg patch
   .
   ## Prostate cancer: Patient's cancer has been refractory to all
   therapies thus far. Metastatic to bone now w/ liver lesions concerning
   for mets. Will slowly reintroduce home pain regimen if extubated
   (dilaudid, oxybutinin, pyridium, methadone, neurontin, ativan).
   - F/u recs of oncologist Dr. [**Last Name (STitle) 5889**]
   - Will email Dr. [**Last Name (STitle) 5889**] to update on pt status.
   .
   ## History of DVT/PE : Per Dr. [**Last Name (STitle) 5889**] (oncology) pt is no longer a
   candidate for anticoagulation given recurrent hematuria. He will no
   longer receive lovenox.  IVC filter in place.
   .
   ## Pressure Ulcer: Stage II Left ischial, continue duoderm and Allevyn
   foam dressing. Changed to aero bed.
   .
   ## Obstructive sleep apnea: on CPAP at baseline.
   .
   ## H/o stomach AVM and GIB: continue PPI. Change to IV PPI [**Hospital1 **] given
   his ?GI bleed.
   .
   ## Depression: Continue Celexa
   .
   ## PPx: PPI. Bowel regimen, pneumoboots, Pt has h/o of dvt/pe but no
   longer a candidate for anticoagulation.
   .
   ## FEN/Lytes:  NGT; hold TFs given probable extubation and high
   residuals; replete lytes prn. F/U Nutrition Consult/recs
   .
   ## Access: A-line placed [**11-5**]; triple lumen RIGHT IJ placed [**2170-10-15**];
   RIGHT PICC placed [**2170-10-31**] and removed.
   ## Code status: DNR/DNI (pt currently intubated, would not
   re-intubate).
   .
   ## Communication: [**Doctor First Name 16**]-Wife [**Telephone/Fax (1) 5836**].
   .
   ## Dispo: Pending clinical improvement or decisions about direction of
   care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-11-1**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2170-11-10 10:40:00 Physician Attending Progress Note
Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 yo man with metastatic prostate CA, polymicrobial sepsis,
   respiratory failure.  Recently extubated, made DNR/DNI with no
   escalation of care.
   24 Hour Events:
   Extubated, respiratory status stable.
   Allergies:
   Ciprofloxacin
   Rash;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2170-11-9**] 02:00 PM
   Daptomycin - [**2170-11-9**] 04:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2170-11-9**] 07:45 PM
   Other medications:
   celexa
   vitamin B12
   neurontin
   folate
   nystatin
   hydrocort
   protonix
   SSI
   fentanyl patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-11-10**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.1
   HR: 113 (102 - 117) bpm
   BP: 94/51(61) {78/42(52) - 107/55(82)} mmHg
   RR: 29 (8 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                    893 mL
                                                                    653 mL
   PO:
             TF:
   IVF:
                                                                    468 mL
                                                                    603 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,255 mL
                                                                    480 mL
   Urine:
                                                                    925 mL
                                                                    400 mL
   NG:
                                                                    330 mL
                                                                     80 mL
   Stool:
   Drains:
   Balance:
                                                                   -362 mL
                                                                    173 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///16/
   Physical Examination
   General Appearance: mod distress
   Eyes / Conjunctiva: icteric
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Cool
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal, opens eyes to voice, followed some commands
   Labs / Radiology
   8.8 g/dL
   24 K/uL
   103 mg/dL
   2.4 mg/dL
   16 mEq/L
   3.6 mEq/L
   48 mg/dL
   112 mEq/L
   140 mEq/L
   24.1 %
   2.9 K/uL
        [image002.jpg]
                            [**2170-11-7**]  01:47 AM
                            [**2170-11-7**]  02:32 AM
                            [**2170-11-7**]  04:53 PM
                            [**2170-11-7**]  10:45 PM
                            [**2170-11-8**]  02:00 AM
                            [**2170-11-8**]  04:45 AM
                            [**2170-11-8**]  06:36 PM
                            [**2170-11-9**]  02:50 AM
                            [**2170-11-9**]  06:11 PM
                             [**2170-11-10**]  03:43 AM
   WBC
   3.1
   2.7
   3.3
   4.2
   2.9
   Hct
   22.6
   21.8
   20.4
   22.8
   21.9
   21.2
   24.5
   24.1
   Plt
   26
   23
   15
   67
   66
   49
   33
   24
   Cr
   1.3
   1.2
   1.0
   2.4
   TCO2
   18
   Glucose
   142
   128
   107
   103
   Other labs: PT / PTT / INR:22.8/36.6/2.2, CK / CKMB /
   Troponin-T:51//0.08, ALT / AST:163/268, Alk Phos / T Bili:1445/11.9,
   Differential-Neuts:75.0 %, Band:0.0 %, Lymph:17.0 %, Mono:5.0 %,
   Eos:0.0 %, Fibrinogen:106 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.5
   g/dL, LDH:363 IU/L, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   52 yo M with widely metstatic prostate cancer to bone and liver, h/o
   DVT/PE s/p IVC filter(not anticoagulated), on CBI from radiation
   cystits, being transferred to the MICU for hemodynamic instability and
   failure to extubate s/p IR placement of a R nephrostomy tube.
   #Hemodynamic instability: Tachycardic, hypotensive, with cool
   extremities, persistently mild temperature, most likely secondary to
   sepsis.   Requiring levophed for pressor support; has good urine
   output.  Blood cultures from [**11-4**] with enterococcus faecium.  Sputum
   from [**11-5**] with rare GNRs.
   - Cont. Dapto to for VRE and CTX for Klebsiella
   - Transfuse to keep Hct >22%
   - Stress dose steroids given recent failed cosyntropin stim test
   - Follow cultures and keep Is/Os even.
   #Respiratory failure: Supportive measures with Oxygen and nebs, but
   patient is now DNR/DNI.
   #Radiation cystitis: Urology recommends removing the nephrostomy tube
   as it may be contributing to the patient
s current sepsis.  Per IR,
   will not remove tube given risk of developing urinoma and risk of
   bleeding.
   - Continue to hold anticoagulation
   - Cont. CBI.
   .
   # Abdominal pain
 Per nursing pt is not having bowel movements, and
   has hypoactive BS.
   - Will continue to monitor, and administer bowel regimen.
   .
   ## Anemia/Thrombocytopenia:. Likely [**2-10**] underlying malignancy and bony
   involvement
   - Transfuse active bleeding or Hct <22 or plts <50 in the setting of
   bleeding;
   .
   ## Chronic Pain: Was stable on home regimen prior to transfer,
   currently on IV fentanyl for pain control.
   - Continue Morphine 2-4mg IV q4prn
   - Cont. gabapentin
   - Increase fentanyl to 50 mcg patch.
   .
   ## Prostate cancer: Patient's cancer has been refractory to all
   therapies thus far. Metastatic to bone now w/ liver lesions concerning
   for mets. Will slowly reintroduce home pain regimen if extubated
   (dilaudid, oxybutinin, pyridium, methadone, neurontin, ativan).
   - F/u recs of oncologist Dr. [**Last Name (STitle) 5889**]
   - Will email Dr. [**Last Name (STitle) 5889**] to update on pt status.
   .
   ## History of DVT/PE : Per Dr. [**Last Name (STitle) 5889**] (oncology) pt is no longer a
   candidate for anticoagulation given recurrent hematuria. He will no
   longer receive lovenox.  IVC filter in place.
   .
   ## Pressure Ulcer: Stage II Left ischial, continue duoderm and Allevyn
   foam dressing. Changed to aero bed.
   .
   ## Obstructive sleep apnea: on CPAP at baseline.
   .
   ## H/o stomach AVM and GIB: continue PPI. Change to IV PPI [**Hospital1 **] given
   his ?GI bleed.
   .
   ## Depression: Continue Celexa
   .
   ## PPx: PPI. Bowel regimen, pneumoboots, Pt has h/o of dvt/pe but no
   longer a candidate for anticoagulation.
   .
   ## FEN/Lytes:  NGT; hold TFs given probable extubation and high
   residuals; replete lytes prn. F/U Nutrition Consult/recs
   .
   ## Access: A-line placed [**11-5**]; triple lumen RIGHT IJ placed [**2170-10-15**];
   RIGHT PICC placed [**2170-10-31**] and removed.
   ## Code status: DNR/DNI (pt currently intubated, would not
   re-intubate).
   .
   ## Communication: [**Doctor First Name 16**]-Wife [**Telephone/Fax (1) 5836**].
   .
   ## Dispo: Pending clinical improvement or decisions about direction of
   care.
   ICU Care
   Lines:
   Multi Lumen - [**2170-11-1**] 11:00 PM
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 52M met prostate cancer c/b ongoing
   septic/hemorrhagic shock after R nephrostomy tube placement. Blood
   cultures have grown VRE and klebsiella. Transfused for BRBPR x1.
   Remains on levophed, but dose is slowly decreasing.
   Agree with plan to continue dapto / ctx / levophed therapy for sepsis.
   Will monitor hematuria / GIB. Overall prognosis is very poor given
   advanced malignancy c/b hepatic infiltration and ongoing septic shock,
   Will discuss with family further goals of care.  Currently on narcotics
   for pain control.  Can increase fentnyl patch.
   Patient is critically ill
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 2513**] [**Name8 (MD) 593**], MD
   on:[**2170-11-10**] 13:53 ------

2170-11-11 05:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - transfused platelets
   - fentanyl patch increased from 25 to 50
   - family mtg: family still requesting medical interventions, will give
   IVF but not pressors to maintain BP while trying to keep pt.
   comfortable with narcotics
   Allergies:
   Ciprofloxacin
   Rash;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2170-11-10**] 02:00 PM
   Daptomycin - [**2170-11-10**] 04:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2170-11-10**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-11-11**] 05:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 108 (102 - 123) bpm
   BP: 80/37(46) {79/37(46) - 121/75(83)} mmHg
   RR: 24 (14 - 41) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  1,173 mL
                                                                     56 mL
   PO:
             TF:
   IVF:
                                                                    840 mL
                                                                     56 mL
   Blood products:
                                                                    283 mL
   Total out:
                                                                    805 mL
                                                                    100 mL
   Urine:
                                                                    725 mL
                                                                    100 mL
   NG:
                                                                     80 mL
   Stool:
   Drains:
   Balance:
                                                                    368 mL
                                                                    -44 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: ///13/
   Physical Examination
   General Appearance: Intubated, sedated, obese. No acute distress.
   Opens eyes to voice.
   Eyes / Conjunctiva: PERRL. Scleral edema and icterus
   Head, Ears, Nose, Throat: NG tube in place
   Cardiovascular: (PMI Hyperdynamic), S1, S2; 2/6 systolic murmur LUSB.
   Respiratory / Chest: Diminshed throughout with  coarse bronchial breath
   sounds
   Abdominal: Obese, Soft. Mildly distended with hypoactive bowel sounds,
   diffuse ecchymoses across the abdomen, mildly tenderly to palpation;
   nephrostomy tube site c/d/I with bloody drainage, + firm hepatomegaly
   Extremities: Right: 3+, Left: 3+ pitting edema, No Cyanosis, No
   Clubbing, cool to touch, with skin break down in multiple locations.
   Skin:  Cool, Diffuse Ecchymoses , + Jaundice
   Neurologic: Responds minimally to noxious stimuli, sedated on Fentanyl
   Labs / Radiology
   74 K/uL
   8.9 g/dL
   105 mg/dL
   2.0 mg/dL
   13 mEq/L
   4.0 mEq/L
   58 mg/dL
   113 mEq/L
   142 mEq/L
   23.6 %
   3.1 K/uL
        [image002.jpg]
                            [**2170-11-7**]  04:53 PM
                            [**2170-11-7**]  10:45 PM
                            [**2170-11-8**]  02:00 AM
                            [**2170-11-8**]  04:45 AM
                            [**2170-11-8**]  06:36 PM
                            [**2170-11-9**]  02:50 AM
                            [**2170-11-9**]  06:11 PM
                             [**2170-11-10**]  03:43 AM
                             [**2170-11-10**]  03:44 PM
                             [**2170-11-11**]  02:30 AM
   WBC
   2.7
   3.3
   4.2
   2.9
   3.1
   Hct
   21.8
   20.4
   22.8
   21.9
   21.2
   24.5
   24.1
   23.6
   Plt
   23
   15
   67
   66
   49
   33
   24
   86
   74
   Cr
   1.2
   1.0
   2.4
   2.0
   Glucose
   128
   107
   103
   105
   Other labs: PT / PTT / INR:22.8/36.6/2.2, CK / CKMB /
   Troponin-T:51//0.08, ALT / AST:163/268, Alk Phos / T Bili:1445/11.9,
   Differential-Neuts:75.0 %, Band:0.0 %, Lymph:17.0 %, Mono:5.0 %,
   Eos:0.0 %, Fibrinogen:106 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.5
   g/dL, LDH:363 IU/L, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   52 yo M with widely metstatic prostate cancer to bone and liver, h/o
   DVT/PE s/p IVC filter(not anticoagulated), on CBI from radiation
   cystits, being transferred to the MICU for hemodynamic instability and
   failure to extubate s/p IR placement of a R nephrostomy tube.
   #Hemodynamic instability: Tachycardic, hypotensive, with cool
   extremities, persistently mild temperature, most likely secondary to
   sepsis.   Requiring levophed for pressor support; has good urine
   output.  Blood cultures from [**11-4**] with enterococcus faecium.  Sputum
   from [**11-5**] with rare GNRs.
   - Cont. Dapto to for VRE and CTX for Klebsiella
   - Cont. to wean levophed to goal MAP of >60.
   - Transfuse to keep Hct >22%
   - Stress dose steroids given recent failed cosyntropin stim test;
   megace stopped [**11-5**]
   - Follow cultures and keep Is/Os even.
   #Respiratory failure: Supportive measures with Oxygen and nebs, but
   patient is now DNR/DNI.
   #Radiation cystitis: Urology recommends removing the nephrostomy tube
   as it may be contributing to the patient
s current sepsis.  Per IR,
   will not remove tube given risk of developing urinoma and risk of
   bleeding.
   - Continue to hold anticoagulation (per his oncologist, pt should not
   receive lovenox)
   - Cont. CBI.
   .
   # Abdominal pain
 Per nursing pt is not having bowel movements, and
   has hypoactive BS.
   - Will continue to monitor, and administer bowel regimen.
   .
   ## Anemia/Thrombocytopenia:. Likely [**2-10**] underlying malignancy and bony
   involvement and possibly acute blood loss in the setting of IR
   procedure.  Platelets now 66 post transfusion from 15.
   - Transfuse active bleeding or Hct <22 or plts <50 in the setting of
   bleeding;
   .
   ## Chronic Pain: Was stable on home regimen prior to transfer,
   currently on IV fentanyl for pain control.
   - Titrate as needed, when able, could resume home regimen:
   - continue Morphine 2-4mg IV q4prn
   - Hold oxybutynin, belladonna while intubated and sedated.
   - Cont. gabapentin
   - Start fentanyl 25 mcg patch
   .
   ## Prostate cancer: Patient's cancer has been refractory to all
   therapies thus far. Metastatic to bone now w/ liver lesions concerning
   for mets. Will slowly reintroduce home pain regimen if extubated
   (dilaudid, oxybutinin, pyridium, methadone, neurontin, ativan).
   - F/u recs of oncologist Dr. [**Last Name (STitle) 5889**]
   - Will email Dr. [**Last Name (STitle) 5889**] to update on pt status.
   .
   ## History of DVT/PE : Per Dr. [**Last Name (STitle) 5889**] (oncology) pt is no longer a
   candidate for anticoagulation given recurrent hematuria. He will no
   longer receive lovenox.  IVC filter in place.
   .
   ## Pressure Ulcer: Stage II Left ischial, continue duoderm and Allevyn
   foam dressing. Changed to aero bed.
   .
   ## Obstructive sleep apnea: on CPAP at baseline.
   .
   ## H/o stomach AVM and GIB: continue PPI. Change to IV PPI [**Hospital1 **] given
   his ?GI bleed.
   .
   ## Depression: Continue Celexa
   .
   ## PPx: PPI. Bowel regimen, pneumoboots, Pt has h/o of dvt/pe but no
   longer a candidate for anticoagulation.
   .
   ## FEN/Lytes:  NGT; hold TFs given probable extubation and high
   residuals; replete lytes prn. F/U Nutrition Consult/recs
   .
   ## Access: A-line placed [**11-5**]; triple lumen RIGHT IJ placed [**2170-10-15**];
   RIGHT PICC placed [**2170-10-31**] and removed.
   ## Code status: DNR/DNI (pt currently intubated, would not
   re-intubate).
   .
   ## Communication: [**Doctor First Name 16**]-Wife [**Telephone/Fax (1) 5836**].
   .
   ## Dispo: Pending clinical improvement or decisions about direction of
   care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-11-1**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2170-11-11 10:00:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53 yo man with metastic prostate CA, recent respiratory failure,
   polymicrobial sepsis.
   24 Hour Events:
   Overnight has had borderline BPs, still seems uncomfortable.
   Allergies:
   Ciprofloxacin
   Rash;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2170-11-10**] 02:00 PM
   Daptomycin - [**2170-11-10**] 04:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2170-11-10**] 12:00 PM
   Other medications:
   fentanyl 50mcg/hr patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-11-11**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (96.9
   HR: 111 (102 - 123) bpm
   BP: 103/41(55) {73/37(46) - 121/75(83)} mmHg
   RR: 43 (14 - 43) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  1,173 mL
                                                                     98 mL
   PO:
             TF:
   IVF:
                                                                    840 mL
                                                                     98 mL
   Blood products:
                                                                    283 mL
   Total out:
                                                                    805 mL
                                                                      0 mL
   Urine:
                                                                    725 mL
   NG:
                                                                     80 mL
   Stool:
   Drains:
   Balance:
                                                                    368 mL
                                                                     98 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: ///13/
   Physical Examination
   Eyes / Conjunctiva: PERRL, icterus
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Lungs:  b/l rhoncherous BS.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   74 K/uL
   105 mg/dL
   2.0 mg/dL
   13 mEq/L
   4.0 mEq/L
   58 mg/dL
   113 mEq/L
   142 mEq/L
   23.6 %
   3.1 K/uL
        [image002.jpg]
                            [**2170-11-7**]  04:53 PM
                            [**2170-11-7**]  10:45 PM
                            [**2170-11-8**]  02:00 AM
                            [**2170-11-8**]  04:45 AM
                            [**2170-11-8**]  06:36 PM
                            [**2170-11-9**]  02:50 AM
                            [**2170-11-9**]  06:11 PM
                             [**2170-11-10**]  03:43 AM
                             [**2170-11-10**]  03:44 PM
                             [**2170-11-11**]  02:30 AM
   WBC
   2.7
   3.3
   4.2
   2.9
   3.1
   Hct
   21.8
   20.4
   22.8
   21.9
   21.2
   24.5
   24.1
   23.6
   Plt
   23
   15
   67
   66
   49
   33
   24
   86
   74
   Cr
   1.2
   1.0
   2.4
   2.0
   Glucose
   128
   107
   103
   105
   Other labs: PT / PTT / INR:22.8/36.6/2.2, CK / CKMB /
   Troponin-T:51//0.08, ALT / AST:163/268, Alk Phos / T Bili:1445/11.9,
   Differential-Neuts:75.0 %, Band:0.0 %, Lymph:17.0 %, Mono:5.0 %,
   Eos:0.0 %, Fibrinogen:106 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.5
   g/dL, LDH:363 IU/L, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 PANCYTOPENIA
 IMPAIRED SKIN INTEGRITY
 RETROPERITONEAL BLEED (RP BLEED) , PROCEDURE-RELATED
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 .H/O CANCER (MALIGNANT NEOPLASM), PROSTATE
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Seems uncomfortable groaning, in moderate respiratory distress.   No
   hope for recovery at this point.  After discussion with Mrs. [**Known lastname 832**],
   patient
s wife, given that he is terminally ill and seems
   uncomfortable, will start morphine drip and titrate to comfort and not
   worry about blood pressure, no pressures.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-11-1**] 11:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2170-11-12 05:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Discussed with family and would like to make patient as comfortable as
   possible.  Started Morpine gtt.
   Allergies:
   Ciprofloxacin
   Rash;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2170-11-11**] 02:00 PM
   Daptomycin - [**2170-11-11**] 04:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2170-11-11**] 10:23 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-11-12**] 05:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 103 (101 - 112) bpm
   BP: 67/26(36) {55/26(35) - 103/47(57)} mmHg
   RR: 26 (11 - 43) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                    473 mL
                                                                    106 mL
   PO:
             TF:
   IVF:
                                                                    393 mL
                                                                    106 mL
   Blood products:
   Total out:
                                                                     25 mL
                                                                    200 mL
   Urine:
                                                                     25 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    448 mL
                                                                    -94 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Intubated, sedated, obese. No acute distress.
   Opens eyes to voice.
   Eyes / Conjunctiva: PERRL. Scleral edema and icterus
   Head, Ears, Nose, Throat: NG tube in place
   Cardiovascular: (PMI Hyperdynamic), S1, S2; 2/6 systolic murmur LUSB.
   Respiratory / Chest: Diminshed throughout with  coarse bronchial breath
   sounds
   Abdominal: Obese, Soft. Mildly distended with hypoactive bowel sounds,
   diffuse ecchymoses across the abdomen, mildly tenderly to palpation;
   nephrostomy tube site c/d/I with bloody drainage, + firm hepatomegaly
   Extremities: Right: 3+, Left: 3+ pitting edema, No Cyanosis, No
   Clubbing, cool to touch, with skin break down in multiple locations.
   Skin:  Cool, Diffuse Ecchymoses , + Jaundice
   Neurologic: Responds minimally to noxious stimuli, sedated on Fentanyl
   Labs / Radiology
   74 K/uL
   8.9 g/dL
   105 mg/dL
   2.0 mg/dL
   13 mEq/L
   4.0 mEq/L
   58 mg/dL
   113 mEq/L
   142 mEq/L
   23.6 %
   3.1 K/uL
        [image002.jpg]
                            [**2170-11-7**]  04:53 PM
                            [**2170-11-7**]  10:45 PM
                            [**2170-11-8**]  02:00 AM
                            [**2170-11-8**]  04:45 AM
                            [**2170-11-8**]  06:36 PM
                            [**2170-11-9**]  02:50 AM
                            [**2170-11-9**]  06:11 PM
                             [**2170-11-10**]  03:43 AM
                             [**2170-11-10**]  03:44 PM
                             [**2170-11-11**]  02:30 AM
   WBC
   2.7
   3.3
   4.2
   2.9
   3.1
   Hct
   21.8
   20.4
   22.8
   21.9
   21.2
   24.5
   24.1
   23.6
   Plt
   23
   15
   67
   66
   49
   33
   24
   86
   74
   Cr
   1.2
   1.0
   2.4
   2.0
   Glucose
   128
   107
   103
   105
   Other labs: PT / PTT / INR:22.8/36.6/2.2, CK / CKMB /
   Troponin-T:51//0.08, ALT / AST:163/268, Alk Phos / T Bili:1445/11.9,
   Differential-Neuts:75.0 %, Band:0.0 %, Lymph:17.0 %, Mono:5.0 %,
   Eos:0.0 %, Fibrinogen:106 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.5
   g/dL, LDH:363 IU/L, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   52 yo M with widely metstatic prostate cancer to bone and liver, h/o
   DVT/PE s/p IVC filter(not anticoagulated), on CBI from radiation
   cystits, being transferred to the MICU for hemodynamic instability and
   failure to extubate s/p IR placement of a R nephrostomy tube.
   #Hemodynamic instability: Tachycardic, hypotensive, with cool
   extremities, persistently mild temperature, most likely secondary to
   sepsis.   Requiring levophed for pressor support; has good urine
   output.  Blood cultures from [**11-4**] with enterococcus faecium.  Sputum
   from [**11-5**] with rare GNRs.
   - Cont. Dapto to for VRE and CTX for Klebsiella
   - Transfuse to keep Hct >22%
   - Stress dose steroids given recent failed cosyntropin stim test;
   megace stopped [**11-5**]
   - Follow cultures
   - IVF to support blood pressure, but no further pressors
   #Respiratory failure: Supportive measures with Oxygen and nebs, but
   patient is now DNR/DNI.
   #Radiation cystitis: Urology recommends removing the nephrostomy tube
   as it may be contributing to the patient
s current sepsis.  Per IR,
   will not remove tube given risk of developing urinoma and risk of
   bleeding.
   - Continue to hold anticoagulation (per his oncologist, pt should not
   receive lovenox)
   - Cont. CBI.
   .
   # Abdominal pain
 Per nursing pt is not having bowel movements, and
   has hypoactive BS.
   - Will continue to monitor, and administer bowel regimen.
   .
   ## Anemia/Thrombocytopenia:. Likely [**2-10**] underlying malignancy and bony
   involvement and possibly acute blood loss in the setting of IR
   procedure.  Platelets now 66 post transfusion from 15.
   - Transfuse active bleeding or Hct <22 or plts <50 in the setting of
   bleeding;
   .
   ## Chronic Pain: Was stable on home regimen prior to transfer,
   currently on IV fentanyl for pain control.  Uptitrating pain
   medications to keep patient comfortable with the understanding that
   such measures will also decrease his blood pressure.
   - Titrate as needed, when able, could resume home regimen:
   - continue Morphine 2-4mg IV q4prn
   - Hold oxybutynin, belladonna while intubated and sedated.
   - Cont. gabapentin
   - Fentanyl 50 mcg patch
   .
   ## Prostate cancer: Patient's cancer has been refractory to all
   therapies thus far. Metastatic to bone now w/ liver lesions concerning
   for mets.
   - F/u recs of oncologist Dr. [**Last Name (STitle) 5889**]
   - Will email Dr. [**Last Name (STitle) 5889**] to update on pt status.
   .
   ## History of DVT/PE : Per Dr. [**Last Name (STitle) 5889**] (oncology) pt is no longer a
   candidate for anticoagulation given recurrent hematuria. He will no
   longer receive lovenox.  IVC filter in place.
   .
   ## Pressure Ulcer: Stage II Left ischial, continue duoderm and Allevyn
   foam dressing. Changed to aero bed.
   .
   ## Obstructive sleep apnea: on CPAP at baseline.
   .
   ## H/o stomach AVM and GIB: continue PPI. Change to IV PPI [**Hospital1 **] given
   his ?GI bleed.
   .
   ## Depression: Continue Celexa
   .
   ## PPx: PPI. Bowel regimen, pneumoboots, Pt has h/o of dvt/pe but no
   longer a candidate for anticoagulation.
   .
   ## FEN/Lytes:  NGT; holding TFs given high residuals; replete lytes
   prn. F/U Nutrition Consult/recs
   .
   ## Access: A-line placed [**11-5**]; triple lumen RIGHT IJ placed [**2170-10-15**];
   RIGHT PICC placed [**2170-10-31**] and removed.
   ## Code status: DNR/DNI; Family still requesting medical interventions
   to prolong life while trying to maintain comfort.  Will continue
   ongoing discussions with family.
   .
   ## Communication: [**Doctor First Name 16**]-Wife [**Telephone/Fax (1) 5836**].
   .
   ## Dispo: Pending clinical course or decisions about direction of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-11-1**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: